2132-08-12 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Repeat ABG: (noon): 7.36/61/121
   - Repeat ABG: (5PM): 7.46/49/85
   - Repeat ABG: (1AM): 7.45/50/105
   - Repeat ABG: (7AM): 7.48, 48, 79
   - try [**8-24**] BIPAP with 8L O2
   - cont linezolid and cefepime for multifocal pneumonia
   - double cover for pseudomonas with cipro
   - spoke to Dr. [**First Name4 (NamePattern1) 20**] [**Last Name (NamePattern1) 885**]: will treat as FULL code
   - echo: There is mild symmetric left ventricular hypertrophy. The left
   ventricular cavity is unusually small. Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded. Left
   ventricular systolic function is hyperdynamic (EF>75%). A mid-cavitary
   gradient is identified. Right ventricular chamber size and free wall
   motion are normal. The aortic valve is not well seen. There is no
   aortic valve stenosis. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. The pulmonary artery systolic
   pressure could not be determined.
   - b/l LE lenis: no dvt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-11**] 10:00 AM
   Azithromycin - [**2132-8-11**] 01:30 PM
   Linezolid - [**2132-8-11**] 08:00 PM
   Ciprofloxacin - [**2132-8-12**] 05:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2132-8-11**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-11**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-12**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 58 (51 - 74) bpm
   BP: 142/44(67) {94/26(43) - 166/65(89)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    760 mL
                                                                    271 mL
   PO:
             TF:
   IVF:
                                                                    700 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  1,542 mL
                                                                    115 mL
   Urine:
                                                                  1,542 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -782 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Bipap mask [**8-24**] 8L O2
   SpO2: 98%
   ABG: 7.48/48/78.[**Numeric Identifier 181**]/33/10
   PaO2 / FiO2: 132
   General: Alert, oriented to person, place, and time.  NAD
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse rhochi bilaterally.  No wheezing.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, G-tube
   in place in her LUQ, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   416 K/uL
   10.4 g/dL
   118 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   142 mEq/L
   31.7 %
   23.4 K/uL
        [image002.jpg]
                             [**2132-8-11**]  09:21 AM
                             [**2132-8-11**]  12:34 PM
                             [**2132-8-11**]  05:26 PM
                             [**2132-8-11**]  08:05 PM
                             [**2132-8-12**]  01:11 AM
                             [**2132-8-12**]  04:24 AM
                             [**2132-8-12**]  06:41 AM
   WBC
   23.4
   Hct
   31.7
   Plt
   416
   Cr
   0.9
   0.8
   TCO2
   35
   36
   36
   36
   37
   Glucose
   155
   118
   Other labs: PT / PTT / INR:13.0/43.9/1.1, Lactic Acid:1.7 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Micro:
   -u/a negative
   - urine cx ([**8-11**]): pending
   - blood cx ([**8-10**], [**8-11**], [**8-12**]): NGTD
   - Sputum Cx [**8-10**]:  GRAM STAIN (Final [**2132-8-10**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   .
   Images:  CXR ([**8-10**]): Compared to the prior study, there is definite
   increase in retrocardiac density and new left pleural effusion.
   Furthermore, there is patchy density in the left upper lung fields and
   I am concerned about the possibility of multifocal pneumonia. This
   could be due to asymmetric pulmonary edema and therefore followup is
   recommended.
   The heart size is not enlarged, although there is some coarsening of
   right- sided interstitial markings. Again noted is the appearance of an
   S-shaped scoliosis of the spine with accompanying diffuse degenerative
   changes.
   .
   CXR ([**8-12**]):  Appears stable.
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection admitted on [**8-7**] post-PEG placement now with acute shortness
   of breath in the setting of hypertensive urgency and worsening
   multifocal PNA.
   # Dyspnea/hypoxia:  Most likely secondary to pneumonia vs.
   mycobacterial infection as evident on CXR showing worsening
   infiltrates.  Also occurred initially in the setting of hypertensive
   urgency making flash pulmonary edema a possible contributor to her
   dyspnea and hypoxia, although less convincing by CXR.  Less likely in
   the differential are PE, MI (although EKG unchanged).  Patient
   continues to tolerate non-invasive ventilation (on bipap 10/4 with 8L
   O2) but will monitor for secretions.
   - continue bipap; will consider weaning O2 as tolerated.  [**Month (only) 51**] consider
   trials without mask to watch oxygenation.
   - serially measuring ABGs; consider placing an a line?
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA.  (day 1: [**2132-8-11**])
   - follow cultures
   - Control of hypertension as below.
   - TTE reported small left ventricular volume; patient may have aspects
   of diastolic heart failure, making her more susceptible to flash
   pulmonary edema -> will need to be cautious about hydration and BP
   management
   - Albuterol nebs prn
   .
   # Hypertension:  The patient's SBP had decreased to the 140's by the
   time she arrived to the floor.  Her acei had been stopped earlier in
   the hospitalization due to ARF.
   - optimize BP management
   - Will continue home nadaolol at 100 mg po daily.  Will increase
   hydralazine to 50 mg po tid.
   - Will continue holding her acei for now.
   - Will monitor SBP closely and if she becomes hypertensive again can
   give prn hydralazine.
   # Leukocytosis:  Patient found to have a multifocal PNA yesterday and
   was started on cefepime.  CXR this am showed worsening PNA, so her
   luekocytosis is likely secondary to this.  Her lactate was normal this
   morning.
   - Check a differential.
   - Per patient has been having slight diarrhea so will check for C.diff.
   - F/u pending blood cultures.
   # Mycobacterial abscessus infection: Continue linezolid and
   azithromycin per outpatient regimen.
   # Anorexia s/p G-tube placement: NPO for now while still dyspenic as
   she may require intubation.
   - F/u GI recs.
   .
   FEN: No IVF, replete electrolytes, regular diet
   .
   Prophylaxis: Subutaneous heparin
   .
   Access: peripherals
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-8-11**] 08:45 AM
   20 Gauge - [**2132-8-11**] 09:50 PM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  PPi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-12 09:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure--Hypoxemic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-8-11**] 10:25 AM
 TRANSTHORACIC ECHO - At [**2132-8-11**] 02:00 PM--Mild symmetric LVH,
   EF-75%, LV cavity with decreased size
 ULTRASOUND - At [**2132-8-11**] 03:00 PM
   bil lower ext. to r/o dvt--no evidence of DVT
 NON-INVASIVE VENTILATION - START [**2132-8-11**] 06:28 PM--Patient able to
   be maintained with [**Hospital1 **]-level support with good improvement in
   oxygenation
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-11**] 10:00 AM
   Azithromycin - [**2132-8-11**] 01:30 PM
   Linezolid - [**2132-8-11**] 08:00 PM
   Ciprofloxacin - [**2132-8-12**] 05:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2132-8-11**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-11**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2132-8-12**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 58 (51 - 72) bpm
   BP: 142/44(67) {94/26(43) - 166/65(89)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    760 mL
                                                                    294 mL
   PO:
             TF:
   IVF:
                                                                    700 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,542 mL
                                                                    115 mL
   Urine:
                                                                  1,542 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -782 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: 7.48/48/78.[**Numeric Identifier 181**]/33/10
   PaO2 / FiO2: 132
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Wheezes : not this morning, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   416 K/uL
   118 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.0 mEq/L
   25 mg/dL
   100 mEq/L
   142 mEq/L
   31.7 %
   23.4 K/uL
        [image002.jpg]
                             [**2132-8-11**]  09:21 AM
                             [**2132-8-11**]  12:34 PM
                             [**2132-8-11**]  05:26 PM
                             [**2132-8-11**]  08:05 PM
                             [**2132-8-12**]  01:11 AM
                             [**2132-8-12**]  04:24 AM
                             [**2132-8-12**]  06:41 AM
   WBC
   23.4
   Hct
   31.7
   Plt
   416
   Cr
   0.9
   0.8
   TCO2
   35
   36
   36
   36
   37
   Glucose
   155
   118
   Other labs: PT / PTT / INR:13.0/43.9/1.1, Lactic Acid:1.7 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: 7.48/48/79
   Imaging: CXR-Clear pachy opacities in RLL and LUL seen and are without
   significant change from day prior.  Small left effusion noted.
   Microbiology: Sputum-GNR's, Gram negative diplococci
   Assessment and Plan
   83 yo female with h/o atypical mycobacterial infection now with
   admission to ICU with dyspna, hypoxia, pneumonia in the setting of
   recent PEG tube placment.  She has had resonable response to
   non-invasive ventilatory support through to today.
   1)Hypoxemic Respiratory Failure-This would appear to be secondary to
   evolution of pneumonia with acute worsening perhaps in the setting of
   acute changes in LVEDP with tachycardia, hypertension and acute
   pulmonary edema.  She has had good tolerance of non-invasive
   ventilation which may be a reasonable support during this course of
   treatment as long as secretions remain limited and mental status
   remains good.
   For Pneumonia
   -Cefepime/Azithro/Cipro/Linezolid
   For Pulmonary Edema
   -Have normalized BP and HR
   -Echo consistent with LVH and risk for adverse response to tachycardia
   For Support
   -Will maintain [**Hospital1 **]-level support right now with 10/4 and 8 lpm O2
   -The concern is that pulmonary secretions will need to be managed with
   nasal-tracheal suctioning and should the volume become difficult to
   manage will have to consider intubation rather than non-invasive
   ventilation.
   ICU Care
   Nutrition: NPO but will need to establish adequate nutritional suppport
   through G-tube
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-8-11**] 08:45 AM
   20 Gauge - [**2132-8-11**] 09:50 PM
   Prophylaxis:
   DVT: Boots, LENI negative
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  33

2132-08-13 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2132-8-12**] 11:32 PM
 MULTI LUMEN - START [**2132-8-13**] 01:56 AM
 NON-INVASIVE VENTILATION - STOP [**2132-8-13**] 03:00 AM
 INVASIVE VENTILATION - START [**2132-8-13**] 03:00 AM
 ARTERIAL LINE - START [**2132-8-13**] 05:45 AM
   - BiPAP d/c'd, patient lasted only half hour then complained of SOB,
   was put on BiPAP again. Was taken off BiPAP and put on face shovel,
   lasted a few minutes, and was complaining of a lot of SOB, and
   complained that she couldn't breathe, so put back on BiPAP.
   - GI recs: can start to use PEG tube
   - SBP in the 180s at 8pm, lungs sound crackly, given 10mg IV lasix
   - Patient lost all [**Name8 (MD) 5258**], RN tried to put new PIV in, no success. IV
   nurse came, no success. We tried to put EJ line in but the vein was too
   small to put a line in.
   - In the process of getting another access with ultrasound assistance,
   patient de-satted to 87-90% on high ventilatory support on BiPAP, and
   was complaining that she couldn't breathe. She was almost "begging" to
   make her breathing better.
   - Despite ok'ish ABG and sats on higher O2 support, because she was
   asking for help, and because it looked that she was going downhill from
   the respiratory stand point, and didn't want to wait to intubate
   emergently, so decided to intubate.
   - prior to intubation, no access. so an emergent R femoral CVL was
   placed
   - patient was intubated without complication
   - gasping on propofol 70ug, so switched to versed and fentanyl.
   linezolid and fentanyl --can lead to serotonin syndrome, so need to
   watch for hypotension, hyperpyrexia, sedation. Bad SS can cause death.
   - A line was placed to monitor BP as pt was getting hypotensive into
   70s
   - PICC line was ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-11**] 10:00 AM
   Azithromycin - [**2132-8-11**] 01:30 PM
   Linezolid - [**2132-8-11**] 08:00 PM
   Ciprofloxacin - [**2132-8-12**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-12**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-13**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 59 (52 - 70) bpm
   BP: 102/29(47) {102/29(47) - 135/39(67)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 48.7 kg (admission): 53.4 kg
             Total In:
                                                                  1,530 mL
                                                                    568 mL
   PO:
             TF:
   IVF:
                                                                  1,530 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    355 mL
   Urine:
                                                                    995 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    535 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   Compliance: 17.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/60/99.[**Numeric Identifier 508**]/34/4
   Ve: 4.8 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General: intubated and sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse rhochi bilaterally.  No wheezing.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, G-tube
   in place in her LUQ, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   385 K/uL
   8.6 g/dL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.5 mEq/L
   26 mg/dL
   97 mEq/L
   136 mEq/L
   26.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2132-8-11**]  12:34 PM
                             [**2132-8-11**]  05:26 PM
                             [**2132-8-11**]  08:05 PM
                             [**2132-8-12**]  01:11 AM
                             [**2132-8-12**]  04:24 AM
                             [**2132-8-12**]  06:41 AM
                             [**2132-8-13**]  01:08 AM
                             [**2132-8-13**]  01:18 AM
                             [**2132-8-13**]  04:30 AM
                             [**2132-8-13**]  05:37 AM
   WBC
   23.4
   16.0
   Hct
   31.7
   26.1
   Plt
   416
   385
   Cr
   0.9
   0.8
   0.8
   TCO2
   36
   36
   36
   37
   36
   37
   34
   Glucose
   155
   118
   150
   Other labs:
   PT / PTT / INR:13.5/45.1/1.2,
   Lactic Acid:0.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Micro:
   blood culture [**Date range (1) 10202**]: pending
   MRSA screen: pending
   Sputum cultures ([**Date range (1) 10203**]): no microorganisms seen
   Imaging: R lower field consolidation improved, and L upper field
   consolidation/infiltrate/collapse stable or slightly worsened
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection admitted on [**8-7**] post-PEG placement now with acute shortness
   of breath in the setting of hypertensive urgency and worsening
   multifocal PNA.
   # Respiratory failure:  s/p intubation. Most likely secondary to
   pneumonia on top of her pre-existing atypical mycobacterial infection
   as evident on CXR showing worsening infiltrates.  Also occurred
   initially in the setting of hypertensive urgency making flash pulmonary
   edema a possible contributor to her dyspnea and hypoxia, although less
   convincing by CXR.  Less likely in the differential are PE, MI
   (although EKG unchanged).
   - continue AC, increase RR from 18 to 20 and recheck ABG
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA  (day 1: [**2132-8-11**])
   - follow cultures
   - Albuterol inhalers
   - follow daily CXRs
   - get CT chest today to better assess the LUL
   consolidation/collapse/infiltrate
   .
   # Hypotension:  The patient had a history of hypertension, and her ACEI
   had been stopped earlier in the hospitalization due to ARF. Was
   hypotensive overnight after intubation, most likely [**12-24**] propofol. S/P
   change to fentanyl and versed, BP improved.
   - Consider putting a neck CVL in today for CVP measurement and for
   fluid blouses
   - IVF boluses today, 1L NS this AM and re-assess fluid status
   - Will hod off on nadaolol and hydralazine for now until BP is more
   stable.
   - Will continue holding her acei for now.
   - Will monitor SBP closely and if she becomes hypertensive again can
   give prn hydralazine.
   # Anemia: No evidence of active bleeding.  Given all three lines are
   down, could be due to linezolid, however, pt has been on linezolid
   chronically so unlikely to give acute Hct drop as what happened today
   (Hct from 31.7 to 26.1)
   - check Fe studies, B12, folate and hemolysis labs
   - guaiac all stools
   # Leukocytosis:  WBC trending down.  Most likely secondary to
   pneumonia. The down-trending could be from pneumonia being treated,
   effect of linezolid and dilutional.
   - F/u pending cultures
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA  (day 1: [**2132-8-11**])
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen.
   - pt not followed by ID currently, will talk to ID today and see if
   they will come to see her
   # Anorexia s/p G-tube placement:
   - start TF through G-tube today
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, neuro exams,  CK levels
   ICU Care
   Nutrition: start TF today
   Glycemic Control:  ISS if needed
   Lines:
   Multi Lumen - [**2132-8-13**] 01:56 AM
   Arterial Line - [**2132-8-13**] 05:45 AM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-13 09:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2132-8-12**] 11:32 PM
 MULTI LUMEN - START [**2132-8-13**] 01:56 AM
 NON-INVASIVE VENTILATION - STOP [**2132-8-13**] 03:00 AM
 INVASIVE VENTILATION - START [**2132-8-13**] 03:00 AM
 ARTERIAL LINE - START [**2132-8-13**] 05:45 AM
   -Patient with loss of IV access in the setting of increasing crackles
   concern for edema and with the prolonged attempts to obtain IV access
   patient did have worsening respiratory distress and was intubated with
   femoral CVL and A-line placed.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2132-8-11**] 08:00 PM
   Ciprofloxacin - [**2132-8-12**] 08:00 PM
   Cefipime - [**2132-8-13**] 08:00 AM
   Azithromycin - [**2132-8-13**] 08:15 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-12**] 08:31 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2132-8-13**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 54 (52 - 65) bpm
   BP: 105/34(53) {102/29(47) - 135/39(67)} mmHg
   RR: 18 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 48.7 kg (admission): 53.4 kg
             Total In:
                                                                  1,530 mL
                                                                  1,195 mL
   PO:
             TF:
   IVF:
                                                                  1,530 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    370 mL
   Urine:
                                                                    995 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    535 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/60/99.[**Numeric Identifier 508**]/34/4
   Ve: 5.4 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Rhonchorous: )-_bronchial breath sounds
   dominate right base, with crackles in LUL region without bronchial
   breath sounds
this does conflict with CXR findings.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   385 K/uL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.5 mEq/L
   26 mg/dL
   97 mEq/L
   136 mEq/L
   26.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2132-8-11**]  12:34 PM
                             [**2132-8-11**]  05:26 PM
                             [**2132-8-11**]  08:05 PM
                             [**2132-8-12**]  01:11 AM
                             [**2132-8-12**]  04:24 AM
                             [**2132-8-12**]  06:41 AM
                             [**2132-8-13**]  01:08 AM
                             [**2132-8-13**]  01:18 AM
                             [**2132-8-13**]  04:30 AM
                             [**2132-8-13**]  05:37 AM
   WBC
   23.4
   16.0
   Hct
   31.7
   26.1
   Plt
   416
   385
   Cr
   0.9
   0.8
   0.8
   TCO2
   36
   36
   36
   37
   36
   37
   34
   Glucose
   155
   118
   150
   Other labs: PT / PTT / INR:13.5/45.1/1.2, Lactic Acid:0.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Multifocal Pneumonia persists--mild clearing in right LL
   opacities--she has remarkable persistence of LUL opacity with
   consolidation, she has evolution of significnat right LL opacity which
   likely represents effusion and infiltrate.
   Assessment and Plan
   83 yo female with history of atypical mycobacterial infection (M.
   Abscessus) now admit to the ICU with multi-focal pneumonia now with
   failure of tolerance of non-invasive ventilatory support in the setting
   of prolonged course with infection.  Intubation last evening was
   without difficulty but did have extensive attempts to maintain IV
   access with ultimately patient with CVL and A-line placed.  This likely
   represents continued presence of active multi-focal pneumonia with
   inability to maintain adequate support outside of invasive ventilatory
   support.  The pathogen remains to be defined clearly and although
   patient may have had some component of hydrostatic edema around the
   time of initial presentation this would most likely represent evolution
   of multifocal infectious pneumonia
   1)Respiratory Failure-
   -Cefepime/Linezolid/Cipro/Azithro
   -Will pursue CT scan to better define infiltrates
   -Will follow up sputum cultures
   -Will maintain A/C support and provide increase in RR to move PCO2 to
   50-55
expect minimum 24-48 hours given prolonged respiratory distress
   prior to intubation
   -Do not see clear role for pulmonary edema at this time
   -Maintain bronchodilators
   2)Hypotension
This was seen post intubation and may represent
   medication effects, decrease in sympathetic drive and have seen
   improvement with change in medications for sedation.
   -Follow BP
   -Will maintain reasonable rate control
   -IVF as needed
1 liter IVF given
will continue with fluild bolus as
   needed today
   -Will need to move to central line to allow better invasive monitoring
   to optimize hemodynamics
   -Pressors as needed to maintain MAP=60-65 given chronic hypertension
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-8-13**] 01:56 AM
   Arterial Line - [**2132-8-13**] 05:45 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2132-08-14 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LIJ was placed, CXR showed no complications, in good position
   - CT chest showed multifocal PNA
   - received 1L NS boluses X 4 during the day; given another liter this
   AM
   - RR increased to 20; ABG: 7.32/54/83
   - her ID physician was not [**Name9 (PRE) 10256**], emailed her, ID consult team happy
   to come by if we have a question
   - changed Cipro to q24h
   - started tube feeds
   - ordered urine Legionella Ag
   - PM Hct stable at 25.0
   - iron studies, vit B12, folate, hemolysis labs, retic count all nl
   - no guiaic bc hasn't stooled
   - continues on AC (RR 16 ABG was 7.34/60/99 then RR 18 ABG was
   7.34/56/88) -> incr RR further to 20 ABG was...
   - [**2132-8-10**] SPUTUM growing gram neg rods
   - bladder scan was nl, flushed foley nl, urea: 760, creat: 101, Na<1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-13**] 08:00 AM
   Azithromycin - [**2132-8-13**] 08:15 AM
   Linezolid - [**2132-8-13**] 08:21 PM
   Ciprofloxacin - [**2132-8-14**] 05:40 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-13**] 09:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-14**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.5
C (95.9
   HR: 66 (47 - 66) bpm
   BP: 128/39(65) {90/28(43) - 145/50(69)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.7 kg (admission): 53.4 kg
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  5,961 mL
                                                                    427 mL
   PO:
   TF:
                                                                    133 mL
                                                                    138 mL
   IVF:
                                                                  5,687 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                     80 mL
   Urine:
                                                                    535 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,426 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.32/54/82.[**Numeric Identifier 143**]/25/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General: intubated and sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse rhochi bilaterally.  Left sided crackles.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, G-tube
   in place in her LUQ, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema.
   Labs / Radiology
   355 K/uL
   9.0 g/dL
   108 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   25 mg/dL
   108 mEq/L
   141 mEq/L
   26.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-8-12**]  06:41 AM
                             [**2132-8-13**]  01:08 AM
                             [**2132-8-13**]  01:18 AM
                             [**2132-8-13**]  04:30 AM
                             [**2132-8-13**]  05:37 AM
                             [**2132-8-13**]  10:21 AM
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
   WBC
   16.0
   11.7
   Hct
   26.1
   25.0
   26.8
   Plt
   385
   355
   Cr
   0.8
   0.8
   TCO2
   37
   36
   37
   34
   30
   32
   29
   Glucose
   150
   108
   Other labs: PT / PTT / INR:12.7/33.6/1.1, Ca++:7.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.4 mg/dL
   Micro:
   -urine cx [**8-11**]: final no growth
   -urinary legionella pending
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: pending
   -Sputum cultures ([**Date range (1) 10203**]): no microorganisms seen.  Cx growing gram
   neg rods, moderate growth.
   -Imaging:
   - CT chest ([**8-13**]):
   IMPRESSION:
   1. New multifocal pneumonia. Rapid development of new
   abnormalities suggests that the findings are not related to the known
   chronic atypical mycobacterial infection.
   2. New moderate bilateral nonhemorrhagic layering pleural effusions and
   increased left atrial enlargement compatible with congestive heart
   failure.
   - CXR ([**8-14**]): increased haziness but penetration less
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection admitted on [**8-7**] post-PEG placement now with acute shortness
   of breath in the setting of hypertensive urgency and worsening
   multifocal PNA
   # Respiratory failure:  s/p intubation. Most likely secondary to
   worsening multifocal pneumonia on top of her pre-existing atypical
   mycobacterial infection as evident on CXR showing worsening
   infiltrates.  CT chest showed bilateral pleural effusions and dilated
   left atrium consistent with CHF.  Also occurred initially in the
   setting of hypertensive urgency making flash pulmonary edema a possible
   contributor to her dyspnea and hypoxia, although less convincing by
   CXR.
   - on AC, RR increased to 20.  Wean FiO2 as tolerated, and consider
   decreasing support.  Recheck ABG.
   - treat underlying pneumonia (gram negative rods growing in sputum)
   with day 4 of:  cefepime, cipro, linezolid and azithromycin for
   possible PNA  (day 1: [**2132-8-11**])
   - changed cipro to q24hours.
   - follow cultures; urinary legionella ordered; f/u GN
   spec/sensitivities
   - Albuterol inhalers
   - get CT chest yesterday that showed multifocal pneumonia
   - given lasix 10mg X 1 given wet imaging and aggressive hydration;
   pressures remained stable
   .
   # Hypotension:  The patient had a history of hypertension.  Remained
   hypotensive overnight with low diastolic pressures
   - LIJ placed yesterday for CVP measurement and for fluid blouses.  CVP
   and urine output were low throughout the night.
   - given 4L LR and  1L LR this AM and re-assess fluid status
   - favor pressors > IVF
   - Will hold off on nadaolol and hydralazine for now until BP is more
   stable.
   - Will continue holding her acei for now.
   - Will monitor SBP closely and if she becomes hypertensive again can
   give prn hydralazine.
   - in regards to low urinary output, bladder scan was nl, foley flushed,
   urine lytes with FENA: 0.01%, implying prerenal etiology.  IVF as
   necessary
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   - has not stooled yet, but will test for guiac positive
   # Leukocytosis:  WBC trending down.  Most likely secondary to
   pneumonia. The down-trending could be from pneumonia being treated,
   effect of linezolid and dilutional.
   - F/u pending cultures
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA  (day 1: [**2132-8-11**])
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen.
   - pt not followed by ID currently, will talk to ID today and see if
   they will come to see her
   # Anorexia s/p G-tube placement:
   - start TF through G-tube today
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, neuro exams,  CK levels
   ICU Care
   Nutrition: started TF yesterday
   Glycemic Control:  ISS if needed
   Lines:
   Multi Lumen - [**2132-8-13**] 01:56 AM
   Arterial Line - [**2132-8-13**] 05:45 AM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-14 10:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2132-8-13**] 05:00 PM
 MULTI LUMEN - STOP [**2132-8-13**] 08:00 PM
   -Catheter changed to left IJ CVL
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-13**] 08:15 AM
   Linezolid - [**2132-8-13**] 08:21 PM
   Ciprofloxacin - [**2132-8-14**] 05:40 AM
   Cefipime - [**2132-8-14**] 07:51 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-14**] 07:50 AM
   Fentanyl - [**2132-8-14**] 07:50 AM
   Pantoprazole (Protonix) - [**2132-8-14**] 07:51 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-14**] 07:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2132-8-14**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 58 (47 - 66) bpm
   BP: 102/35(53) {90/28(43) - 145/50(69)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.5 kg (admission): 53.4 kg
   CVP: 10 (2 - 12)mmHg
   Total In:
                                                                  5,961 mL
                                                                  1,725 mL
   PO:
   TF:
                                                                    133 mL
                                                                    224 mL
   IVF:
                                                                  5,687 mL
                                                                  1,441 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    200 mL
   Urine:
                                                                    535 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,426 mL
                                                                  1,525 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.32/54/82.[**Numeric Identifier 143**]/25/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Left side, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   355 K/uL
   108 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   25 mg/dL
   108 mEq/L
   141 mEq/L
   26.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-8-12**]  06:41 AM
                             [**2132-8-13**]  01:08 AM
                             [**2132-8-13**]  01:18 AM
                             [**2132-8-13**]  04:30 AM
                             [**2132-8-13**]  05:37 AM
                             [**2132-8-13**]  10:21 AM
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
   WBC
   16.0
   11.7
   Hct
   26.1
   25.0
   26.8
   Plt
   385
   355
   Cr
   0.8
   0.8
   TCO2
   37
   36
   37
   34
   30
   32
   29
   Glucose
   150
   108
   Other labs: PT / PTT / INR:12.7/33.6/1.1, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CT Chest-Final read pending
extensive multi-lobar pneumonia
   seen.
   CXR--ETT and IJ catheter in place with good placement
   Microbiology: Urine Legionella-_Pending
   Sputum--GNR's--moderate growth, awaiting final species
   Assessment and Plan
   83 yo female with history of atypical mycobacterial infection now with
   hypoxemic respiratory failure in the setting of multifocal pneumonia.
   She has had reasonable support with A/C now.
   1)Pneumonia-Cefepime/Azithro/Linezolid/Cipro
   -Will await speciation for gram negative rods
   -CT scan reassuring for likely multi-focal bacterial pneumonia and will
   review with radiology
   -Continue with current treatment
   2)Respiratory Failure
Hypoxemic and related to multifocal pneumonia
   -Will continue with A/C support today
   -Suction PRN
   -With patient showing improved ventilatory requirements will consider
   decrease in support and change in rate
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-13**] 10:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM
   Multi Lumen - [**2132-8-13**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 44 minutes

2132-08-15 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - sputum culture grew out pseudomonas aeruginosa, sparse growth
   - CT Chest final read:
   IMPRESSION: 1. New multifocal pneumonia. Rapid development of new
   abnormalities suggests that the findings are not related to the known
   chronic atypical mycobacterial infection.
   2. New moderate bilateral nonhemorrhagic layering pleural effusions and
   increased left atrial enlargement compatible with congestive heart
   failure.
   - given lasix 10mg IV X 1, BPs stable
   - started colace NG, bisacodyl NG/PR
   - weaned FiO2 to 40%, ABG: 7.46, 47, 77.
   - 4AM ABG: 7.37, 52, 101.  Planned to change from AC to PS this AM, bu
   SBP spiked to >200 and copious secretions were suctioned.  Placed back
   on AC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-13**] 08:15 AM
   Linezolid - [**2132-8-13**] 08:21 PM
   Cefipime - [**2132-8-14**] 07:51 AM
   Ciprofloxacin - [**2132-8-14**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-14**] 07:51 AM
   Furosemide (Lasix) - [**2132-8-14**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-14**] 10:00 PM
   Midazolam (Versed) - [**2132-8-15**] 04:08 AM
   Fentanyl - [**2132-8-15**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 52 (52 - 70) bpm
   BP: 124/40(69) {94/29(46) - 152/56(91)} mmHg
   RR: 19 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 61.5 kg (admission): 53.4 kg
    CVP: 4 (3 - 13)mmHg
   Total In:
                                                                  2,330 mL
                                                                    283 mL
   PO:
   TF:
                                                                    641 mL
                                                                    199 mL
   IVF:
                                                                  1,629 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    465 mL
   Urine:
                                                                  1,280 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,050 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.37/52/101/28/2
   Ve: 6.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General: intubated and sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse rhochi bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, G-tube
   in place in her LUQ, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema.
   Labs / Radiology
   339 K/uL
   8.4 g/dL
   135 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-8-13**]  05:37 AM
                             [**2132-8-13**]  10:21 AM
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
   WBC
   11.7
   11.7
   Hct
   25.0
   26.8
   26.5
   Plt
   355
   339
   Cr
   0.8
   0.8
   TCO2
   34
   30
   32
   29
   28
   28
   31
   Glucose
   108
   135
   Other labs: PT / PTT / INR:12.0/30.5/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Micro:
   -urine cx [**8-11**]: final no growth
   -urinary legionella negative
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: negative
   -Sputum cultures ([**Date range (1) 10203**]): [**8-13**]: pseudomonas aeruginosa. Sparse
   growth.  [**8-12**]: pseudomonas aeruginosa.
   -Imaging:
   - CT chest ([**8-13**]):
   IMPRESSION:
   1. New multifocal pneumonia. Rapid development of new
   abnormalities suggests that the findings are not related to the known
   chronic atypical mycobacterial infection.
   2. New moderate bilateral nonhemorrhagic layering pleural effusions and
   increased left atrial enlargement compatible with congestive heart
   failure.
   CXR: improved multifocal pneumonia on the right lung field.  Left lung
   field stable.
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection admitted on [**8-7**] post-PEG placement now with acute shortness
   of breath in the setting of hypertensive urgency and worsening
   multifocal PNA
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.  CT chest showed
   bilateral pleural effusions and dilated left atrium consistent with
   CHF.  Also occurred initially in the setting of hypertensive urgency
   making flash pulmonary edema a possible contributor to her dyspnea and
   hypoxia, although less convincing by CXR.
   - successfully weaned FiO2 overnight.  Attempted to switch to PS this
   AM, however SBP spiked to >200 and copious secretions suctioned.
   Placed back on AC at that time.   Recheck ABG.  Later this PM, consider
   reattempt transition to PS with better blood pressure control.  Look
   for stabilization of fever and decrease in secretion production
   - treat underlying pneumonia (pseudomonas) with day 5 of:  cefepime,
   cipro, linezolid and azithromycin for possible PNA  (day 1: [**2132-8-11**])
   - changed cipro to q24hours.
   - follow cultures; urinary legionella ordered; f/u GN
   spec/sensitivities
   - Albuterol inhalers
   - get CT chest yesterday that showed multifocal pneumonia
   - given lasix 10mg X 1 given wet imaging and aggressive hydration;
   pressures remained stable
   .
   # Hypotension:  The patient had a history of hypertension.  Remained
   hypotensive overnight with low diastolic pressures
   - LIJ placed yesterday for CVP measurement and for fluid blouses.  CVP
   and urine output were low throughout the night.
   - as hypotension has resolved, can consider d/cing CVL and obtain PICC
   placement
   - will add hydralazine given SBP spike to > 200.  Monitor for
   hypotension
   - keep I/O
s even
   - favor fluid boluses
   - in regards to low urinary output, bladder scan was nl, foley flushed,
   urine lytes with FENA: 0.01%, implying prerenal etiology.  IVF as
   necessary
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   - has not stooled yet, but will test for guiac positive
   # Leukocytosis:  WBC trending down.  Most likely secondary to
   pneumonia. The down-trending could be from pneumonia being treated,
   effect of linezolid and dilutional.
   - F/u pending cultures
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA  (day 1: [**2132-8-11**])
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen.
   - pt not followed by ID currently, will talk to ID today and see if
   they will come to see her
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, neuro exams,  CK levels
   ICU Care
   Nutrition: TF
   Glycemic Control:  ISS if needed
   Lines:
   Multi Lumen - [**2132-8-13**] 01:56 AM
   Arterial Line - [**2132-8-13**] 05:45 AM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-15 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pseudomonas--sparse growth in sputum
   FIO2 wean to 0.4
   7.46/47/77
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-13**] 08:15 AM
   Linezolid - [**2132-8-13**] 08:21 PM
   Ciprofloxacin - [**2132-8-14**] 08:00 PM
   Cefipime - [**2132-8-15**] 08:11 AM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-14**] 04:30 PM
   Fentanyl - [**2132-8-15**] 04:08 AM
   Midazolam (Versed) - [**2132-8-15**] 08:11 AM
   Pantoprazole (Protonix) - [**2132-8-15**] 08:29 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-15**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2132-8-15**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 52 (52 - 70) bpm
   BP: 124/40(69) {111/32(51) - 152/56(91)} mmHg
   RR: 19 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.5 kg (admission): 53.4 kg
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  2,340 mL
                                                                    449 mL
   PO:
   TF:
                                                                    651 mL
                                                                    276 mL
   IVF:
                                                                  1,629 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,280 mL
                                                                    465 mL
   Urine:
                                                                  1,280 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.37/52/101/28/2
   Ve: 5.6 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   339 K/uL
   135 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   26.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-8-13**]  05:37 AM
                             [**2132-8-13**]  10:21 AM
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
   WBC
   11.7
   11.7
   Hct
   25.0
   26.8
   26.5
   Plt
   355
   339
   Cr
   0.8
   0.8
   TCO2
   34
   30
   32
   29
   28
   28
   31
   Glucose
   108
   135
   Other labs: PT / PTT / INR:12.0/30.5/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR-Good position of ETT and CVL
   -Has persistence of bilateral pneumonia but with improved aeration of
   right lung.
   Microbiology: Sputum-[**8-13**]-Pseudomonas
   Urine Legionella--negative
   BC-negative
   Urine-Negative
   Assessment and Plan
   83 yo female with multifocal pneumonia in the setting of history of M.
   Abscessus infection chronically with recent PEG tube placment
   attempted.  This has been seen on CXR as well as CT scan to be
   substantial and wide spread multifocal pneumonia.
   1)Respiratory Failure--
   -Will continue with A/C support
   -Will permit mild respiratory acidosis with PCO2-50 today
   -FIO2 wean effected
   -Ongoing Rx for PNA in place
   2)Pneumonia-
   -Cefepime/Cipro
   M. Abscessus
   -Linezolid/Azithro
   -Will look for further decrease in WBC count and continued
   stabilization of fever curve and finally decrease in secretion volume
   to move towards extubation
   3)Sepsis-Secondary to pneumonia
   -Keep I/O even
   -Will move towards fluild bolus for recurrent hypotension seen
   -Will start Nadolol
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-15**] 07:03 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM
   Multi Lumen - [**2132-8-13**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2132-08-16 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2132-8-15**] 01:23 PM
 MULTI LUMEN - STOP [**2132-8-15**] 03:21 PM
   - PICC line placed
   - CVL pulled
   - kept pt on AC with 40% FiO2 and PEEP of 5
   - started 25mg hydralazine [**Hospital1 7**] for HTN
   - A-line may need to be replaced via a guide wire
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-13**] 08:15 AM
   Linezolid - [**2132-8-13**] 08:21 PM
   Ciprofloxacin - [**2132-8-14**] 08:00 PM
   Cefipime - [**2132-8-15**] 08:11 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-15**] 08:29 AM
   Fentanyl - [**2132-8-15**] 10:28 AM
   Midazolam (Versed) - [**2132-8-15**] 03:56 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-16**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 68 (52 - 72) bpm
   BP: 121/61(79) {100/35(56) - 200/78(125)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 53.4 kg
    CVP: 17 (11 - 17)mmHg
   Total In:
                                                                  1,378 mL
                                                                    443 mL
   PO:
   TF:
                                                                    799 mL
                                                                    325 mL
   IVF:
                                                                    418 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    400 mL
   Urine:
                                                                  1,105 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    273 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 23 cmH2O
   Plateau: 13 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 6.1 L/min
   Physical Examination
   General: intubated and sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Diffuse rhochi bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, G-tube
   in place in her LUQ, no rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema.
   Labs / Radiology
   321 K/uL
   8.2 g/dL
   136 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   25.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2132-8-13**]  10:21 AM
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
                             [**2132-8-16**]  05:02 AM
   WBC
   11.7
   11.7
   13.4
   Hct
   25.0
   26.8
   26.5
   25.6
   Plt
   355
   339
   321
   Cr
   0.8
   0.8
   0.6
   TCO2
   30
   32
   29
   28
   28
   31
   Glucose
   108
   135
   136
   Other labs:
   PT / PTT / INR:12.1/30.5/1.0,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Micro:
   -urine cx [**8-11**]: final no growth
   -urinary legionella negative
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: negative
   -Sputum cultures ([**Date range (1) 10203**]): [**8-13**]: pseudomonas aeruginosa. Sparse
   growth.  [**8-12**]: pseudomonas aeruginosa.
   --- pseudomonas aeruginosa in sputum is pan-sensitive
   Imaging:
   CXR ([**8-16**]): my read: stable L upper lung field and R lower lung field
   consolidation
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection admitted on [**8-7**] post-PEG placement now with acute shortness
   of breath in the setting of hypertensive urgency and worsening
   multifocal PNA
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.  CT chest showed
   bilateral pleural effusions and dilated left atrium consistent with
   CHF.  Also occurred initially in the setting of hypertensive urgency
   making flash pulmonary edema a possible contributor to her dyspnea and
   hypoxia, although less convincing by CXR.
   - successfully weaned FiO2 overnight.  Attempted to switch to PS this
   AM, however SBP spiked to >200 and copious secretions suctioned.
   Placed back on AC at that time.   Recheck ABG.  Later this PM, consider
   reattempt transition to PS with better blood pressure control.  Look
   for stabilization of fever and decrease in secretion production
   - treat underlying pneumonia (pseudomonas) with day 5 of:  cefepime,
   cipro, linezolid and azithromycin for possible PNA  (day 1: [**2132-8-11**])
   - changed cipro to q24hours.
   - follow cultures; urinary legionella ordered; f/u GN
   spec/sensitivities
   - Albuterol inhalers
   - get CT chest yesterday that showed multifocal pneumonia
   - given lasix 10mg X 1 given wet imaging and aggressive hydration;
   pressures remained stable
   .
   # Hypotension:  The patient had a history of hypertension.  Remained
   hypotensive overnight with low diastolic pressures
   - LIJ placed yesterday for CVP measurement and for fluid blouses.  CVP
   and urine output were low throughout the night.
   - as hypotension has resolved, can consider d/cing CVL and obtain PICC
   placement
   - will add hydralazine given SBP spike to > 200.  Monitor for
   hypotension
   - keep I/O
s even
   - favor fluid boluses
   - in regards to low urinary output, bladder scan was nl, foley flushed,
   urine lytes with FENA: 0.01%, implying prerenal etiology.  IVF as
   necessary
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   - has not stooled yet, but will test for guiac positive
   # Leukocytosis:  WBC trending down.  Most likely secondary to
   pneumonia. The down-trending could be from pneumonia being treated,
   effect of linezolid and dilutional.
   - F/u pending cultures
   - treat underlying pneumonia with cefepime, cipro, linezolid and
   azithromycin for possible PNA  (day 1: [**2132-8-11**])
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen.
   - pt not followed by ID currently, will talk to ID today and see if
   they will come to see her
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, neuro exams,  CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-15**] 07:03 AM 45 mL/hour
   Glycemic Control:  ISS if needed
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-16 14:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2132-8-15**] 01:23 PM
 MULTI LUMEN - STOP [**2132-8-15**] 03:21 PM
    PICC placed, CVL pulled
   hydralazine started for BP's
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2132-8-13**] 08:21 PM
   Ciprofloxacin - [**2132-8-14**] 08:00 PM
   Cefipime - [**2132-8-16**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-16**] 08:30 AM
   Fentanyl - [**2132-8-16**] 12:22 PM
   Midazolam (Versed) - [**2132-8-16**] 12:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-16**] 02:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 69 (57 - 81) bpm
   BP: 86/42(57) {86/35(56) - 168/95(115)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 53.4 kg
             Total In:
                                                                  1,377 mL
                                                                    978 mL
   PO:
             TF:
                                                                    799 mL
                                                                    634 mL
   IVF:
                                                                    418 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    675 mL
   Urine:
                                                                  1,105 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    272 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 0 (0 - 292) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.30/68/77.[**Numeric Identifier 143**]/27/4
   Ve: 6.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   8.2 g/dL
   321 K/uL
   136 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   25.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2132-8-13**]  03:03 PM
                             [**2132-8-13**]  03:16 PM
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
   WBC
   11.7
   11.7
   13.4
   Hct
   25.0
   26.8
   26.5
   25.6
   Plt
   355
   339
   321
   Cr
   0.8
   0.8
   0.6
   TCO2
   32
   29
   28
   28
   31
   35
   Glucose
   108
   135
   136
   Other labs: PT / PTT / INR:12.1/30.5/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Microbiology: sputum: pan sensitive Pseudomonas
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   83 yo female with chronic M.abscessus lung disease admitted for PEG
   tube placement complicated by post-procedure acute respiratory failure
   from multifocal Pseudomonas PNA
   1)Respiratory Failure--
   *Remains intubated , tolerating PSV- wean vent as tolerated
   *MS [**First Name (Titles) **] [**Last Name (Titles) 6573**] needs are limiting ability to extubate- try to
   decrease [**Last Name (Titles) 6573**] again
   *Cefipime/cipro day 6 for Pseudomonas- plan 2 wk course due to
   underlying structural lung disease + Pseudomonas infxn
   *Remains on linezolid/aziithromycin for M.abscessus
   2. Hypertension: reasonable BP control on hydralazine, adjust as needed
   3. Anemia: hct unchanged
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-16**] 08:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-08-17 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - changed to PS 12/5 this AM -> ABG pH 7.30/68/78 -> back to AC, incr
   TV from 300 to 400 -> ABG pH 7.47 pCO2 46 pO2 107 -> kept TV at 350
   - advanced ETT 2-3cm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-16**] 08:00 AM
   Linezolid - [**2132-8-16**] 08:00 PM
   Ciprofloxacin - [**2132-8-17**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-16**] 03:00 PM
   Fentanyl - [**2132-8-16**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-16**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-17**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 78 (63 - 91) bpm
   BP: 154/50(74) {109/31(50) - 154/50(74)} mmHg
   RR: 19 (12 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 53.4 kg
             Total In:
                                                                  1,566 mL
                                                                    556 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    272 mL
   IVF:
                                                                    406 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    360 mL
   Urine:
                                                                  1,140 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (300 - 400) mL
   Vt (Spontaneous): 0 (0 - 292) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 318
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 92%
   ABG: 7.47/46/107//8
   Ve: 6.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General: intubated and sedated, not arousable to voice
   HEENT: Sclera anicteric, MM dry. ETT in place
   Neck: supple, JVP not elevated, no LAD. CVL pulled.
   Lungs: Diffuse rhochi bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-distended, bowel sounds present, G-tube in place in
   her LUQ
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema.
   Labs / Radiology
   321 K/uL
   8.2 g/dL
   136 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.7 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   25.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2132-8-14**]  05:16 AM
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
   WBC
   11.7
   11.7
   13.4
   Hct
   26.8
   26.5
   25.6
   Plt
   355
   339
   321
   Cr
   0.8
   0.8
   0.6
   TCO2
   29
   28
   28
   31
   35
   32
   34
   Glucose
   108
   135
   136
   Other labs: PT / PTT / INR:12.1/30.5/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Other labs:
   PT / PTT / INR:12.1/30.5/1.0,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Micro:
   -urine cx [**8-11**]: no growth
   -urinary legionella negative
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: negative
   -Sputum cultures ([**8-10**], [**8-12**], [**8-13**]):  pan-sensitive pseudomonas
   aeruginosa.  2^nd morphology of pseudomonas aeroginosa.  Aspergillus,
   rare growth.
   Imaging:
   CXR ([**8-16**]): my read: worsening L upper lung field and R lower lung
   field consolidation
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.   Also occurred
   initially in the setting of hypertensive urgency making flash pulmonary
   edema a possible contributor to her dyspnea and hypoxia, although less
   convincing by CXR.  The barriers to extubation include severe
   multifocal pneumonia and baseline poor lung function [**12-24**] atypical
   mycobacterial infection and altered mental status.
   - On AC currently.  Recheck ABG.
   - will try to decrease dead space by decreasing the tube length
   - continue regular suction
   - consulted ID today, with recommendations:  pan culture (urine,
   sputum, blood).  given failure to improve on cefepime/cipro, and the
   low genetic barrier to fluoroquinolone resistance, switched to
   meropenem and inhaled tobramycin.  Sent mini-bal for gram stain and
   culture as well as galactomannan.  Checked serum galactomannin and
   beta-d-glucan.  Will follow up test results
   - continue linezolid and azithromycin for atypical mycobacterial
   infection
   - continue Albuterol inhalers
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen.
   .
   # Leukocytosis:  WBC stable.  Most likely secondary to pneumonia. Pt is
   on linezolid which could potentially lead to decreased WBC.
   - treat underlying pneumonia with [**Last Name (un) 614**], tobramycin, linezolid and
   azithromycin for pseudomonas pneumonia and atypical mycobacterial
   infection as above
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  The patient had a history of hypertension.
   - continue hydralazine 25mg [**Hospital1 7**] (added on [**8-15**]).  Her home dose is 50mg
   [**Hospital1 7**], so if BP continues to run high today, can increase to 50mg [**Hospital1 7**]
   - keep I/O
s even today
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-16**] 07:03 AM 45 mL/hour
   Glycemic Control:  ISS if needed
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM.  Plan to change today over wire.
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: sub Q heparin
   Stress ulcer:  IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-17 08:26:00 Physician Attending Progress Note
TITLE: MICU Attending Progress Note
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    83 yo female with M.abscessus lung disease with post-PEG respiratory
   failure and multifocal Pseudomonas PNA
   24 Hour Events:
   Attempted PSV trial, aborted due to hypercarbia
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-16**] 08:00 AM
   Linezolid - [**2132-8-16**] 08:00 PM
   Ciprofloxacin - [**2132-8-17**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-16**] 03:00 PM
   Fentanyl - [**2132-8-16**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-16**] 09:35 PM
   Other medications:
   ASA, PPI, colace, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-17**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 90 (63 - 91) bpm
   BP: 118/37(57) {109/31(50) - 154/50(74)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62 kg (admission): 53.4 kg
             Total In:
                                                                  1,566 mL
                                                                    697 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    379 mL
   IVF:
                                                                    406 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    420 mL
   Urine:
                                                                  1,140 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    426 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (300 - 400) mL
   Vt (Spontaneous): 0 (0 - 292) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 318
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 18.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/46/107/30/8
   Ve: 7.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   HEENT: +OGT
   Lungs: scattered rhonchi
   CV:RRR
   Abd:soft, nontender, +bs
   Ext: 1+ edema
   Skin:  n
l turgor
   Neurologic: Restless, appears agitated, not following commands
   Labs / Radiology
   9.0 g/dL
   360 K/uL
   129 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.6 mEq/L
   22 mg/dL
   105 mEq/L
   143 mEq/L
   27.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2132-8-14**]  05:34 AM
                             [**2132-8-14**]  12:17 PM
                             [**2132-8-14**]  04:28 PM
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
   WBC
   11.7
   13.4
   17.7
   Hct
   26.5
   25.6
   27.4
   Plt
   [**Telephone/Fax (3) 10331**]
   Cr
   0.8
   0.6
   0.7
   TCO2
   29
   28
   28
   31
   35
   32
   34
   Glucose
   135
   136
   129
   Other labs: PT / PTT / INR:12.3/30.3/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Sputum culture: second morphology of Pseduomonas: [**Doctor Last Name **]. To Cipro,
   intermediate to Cefipime
   CXR: more underpenetrated; however, multifocal infiltrates appear to
   be  enlarging
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   83 yo female with chronic M.abscessus lung disease admitted for PEG
   tube placement complicated by post-procedure acute respiratory failure
   from multifocal Pseudomonas PNA
   1.       Acute respiratory failure with Pseudomonas PNA and underlying
   M.abscessus lung infection
   Still requires ventilatory support and did not tolerate PSV
   RSBI 318, CXR worse, and pt requiring extra sedation, so no plans to
   wean ventilator today
   Recent sputum data shows a second morphology of Pseudomonas with
   intermediate [**Doctor Last Name **]. To Cefipime- concern that Pseudomonas is not
   adequately treated
   Switch to zosyn, continue cipro for double gm negative coverage
   Continue linezolid/azithromycin for M.abscessus
   2.       Leukocytosis: presumptively pulmonary source, however will
   pan-culture
   3.       anemia: no active bleeding with unchanged counts
   4.       HTN: hydralazine restarted
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-17**] 06:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-8-13**] 05:45 AM
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP: HOB elevated, mouth care, daily wake up, SBT
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2132-08-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pan culture (urine, sputum, blood): results pending
   - ID rec: given failure to improve on cefepime/cipro, and the low
   genetic barrier to fluoroquinolone resistance, would switch the patient
   to meropenem and inhaled tobramycin.  Send mini-bal for gram stain and
   culture as well as galactomannan.  Check serum galactomannin and
   beta-d-glucan.
   - a line lost, tried replacing but unsuccessful
   - given lasix IV 10mg X 1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-16**] 08:00 AM
   Linezolid - [**2132-8-16**] 08:00 PM
   Ciprofloxacin - [**2132-8-17**] 06:00 AM
   Meropenem - [**2132-8-18**] 03:53 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-17**] 08:35 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-17**] 10:40 PM
   Midazolam (Versed) - [**2132-8-18**] 12:31 AM
   Fentanyl - [**2132-8-18**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 88 (70 - 91) bpm
   BP: 146/43(71) {96/30(49) - 191/90(111)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.5 kg (admission): 53.4 kg
             Total In:
                                                                  1,777 mL
                                                                    537 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    318 mL
   IVF:
                                                                    575 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    655 mL
   Urine:
                                                                  1,550 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.46/53/74/35/11
   Ve: 6.7 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Gen: patient intubated and sedated, not following commands
   HEENT: Sclera anicteric, MM dry. ETT in place
   Neck: supple, JVP not elevated, no LAD.
   Lungs: Diffuse rhochi and coarse breath sounds bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-distended, bowel sounds present, G-tube in place in
   her LUQ, erythematous papular rash on abdomen
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema with 1+ edema to mid shin
   Labs / Radiology
   317 K/uL
   8.4 g/dL
   140 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.5 mEq/L
   23 mg/dL
   103 mEq/L
   143 mEq/L
   26.6 %
   17.9 K/uL
        [image002.jpg]
                             [**2132-8-15**]  03:38 AM
                             [**2132-8-15**]  04:13 AM
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
   WBC
   11.7
   13.4
   17.7
   17.6
   17.9
   Hct
   26.5
   25.6
   27.4
   17.7
   26.6
   Plt
   [**Telephone/Fax (3) 10337**]56
   317
   Cr
   0.8
   0.6
   0.7
   0.7
   0.7
   TCO2
   31
   35
   32
   34
   39
   Glucose
   135
   136
   129
   164
   140
   Ca: 7.8, Mg: 2.4, Phos: 1.9
   PT: 12.4, INR: 1.0, PTT:31
   Micro:
   -urine cx [**8-11**]: no growth
   -urinary legionella negative
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: negative
   -Sputum cultures ([**8-10**], [**8-12**], [**8-13**]):  pan-sensitive pseudomonas
   aeruginosa.  2^nd morphology of pseudomonas aeroginosa.  Aspergillus,
   rare growth.
   Chest X-Ray (my read): improvement in right upper lobe, otherwise
   stable LLL and RLL consolidations
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.   Also occurred
   initially in the setting of hypertensive urgency making flash pulmonary
   edema a possible contributor in addition to possible PNA to her dyspnea
   and hypoxia, although less convincing by CXR.  The barriers to
   extubation include severe multifocal pneumonia and baseline poor lung
   function [**12-24**] atypical mycobacterial infection and altered mental
   status.  Appears to be third-spacing and has net volume increase.
   -diurese patient with concurrent acetazolamide to help correct for
   increasing Bicarb, with goal of 1L net negative today
   - will start diamox (500mg TID) to try to keep bicarb from increasing
   further and prevent further metabolic alkalosis, titrating to bicarb of
   28 consider following VBGs rather than ABGs if her pressures remain
   stable and A line attempts were unsuccessful
   - On AC currently, will try to wean sedation to see how she does
   - Consider decreasing level of sedation to monitor improvement
   - continue regular suction
   - Cont meropenem and inhaled tobramycin as per ID.  Sent mini-bal for
   gram stain and culture as well as galactomannan.  F/U serum
   galactomannin and beta-d-glucan.
   - continue linezolid and azithromycin for atypical mycobacterial
   infection
   - continue Albuterol inhalers
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC stable.  Most likely secondary to pneumonia. Pt is
   on linezolid which could potentially lead to decreased WBC.
   - treat underlying pneumonia with [**Last Name (un) 614**], tobramycin, linezolid and
   azithromycin for pseudomonas pneumonia and atypical mycobacterial
   infection as above
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  The patient had a history of hypertension.
   - continue hydralazine 25mg [**Hospital1 7**] (added on [**8-15**]).  Her home dose is 50mg
   [**Hospital1 7**], so if BP continues to run high today, can increase to 50mg [**Hospital1 7**]
   - keep patient net 1L negative today
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-18**] 05:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-19 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - diurese:  IV furosemide 10mg x1 at 17:30
   - diamox ordered (titrate to bicarb 28)
   - diamox and hydral held in evening due to pressures in 90s/?50s in
   Right arm
   - A-line placed in Left Radial (Note: PICC line also in left arm; IV
   team called and confirmed that A-line is not a contraindication). Right
   radial attempted first unsuccessfully 3-4 times, very weak pulse and
   significant edema.
   - Note also that systolic pressures in Right arm appear to be lower
   than elsewhere.  Left leg pressure appear to be similar to the current
   A-line pressures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2132-8-16**] 08:00 AM
   Linezolid - [**2132-8-16**] 08:00 PM
   Ciprofloxacin - [**2132-8-17**] 06:00 AM
   Meropenem - [**2132-8-19**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-18**] 05:00 PM
   Fentanyl - [**2132-8-18**] 05:00 PM
   Furosemide (Lasix) - [**2132-8-18**] 06:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-19**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (68 - 98) bpm
   BP: 108/44(65) {97/39(55) - 134/46(354)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.5 kg (admission): 53.4 kg
             Total In:
                                                                  2,233 mL
                                                                    577 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    308 mL
   IVF:
                                                                    913 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    340 mL
   Urine:
                                                                  1,210 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,023 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/62/92.[**Numeric Identifier 132**]/35/8
   Ve: 6.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Gen: patient intubated and sedated, not following commands
   HEENT: Sclera anicteric, MM dry. ETT in place
   Neck: supple, JVP not elevated, no LAD.
   Lungs: Diffuse rhochi and coarse breath sounds bilaterally.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-distended, bowel sounds present, G-tube in place in
   her LUQ, erythematous papular rash on abdomen
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis.  2+ pedal
   edema with 1+ edema to mid shin
   Labs / Radiology
   271 K/uL
   8.1 g/dL
   151 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.5 mEq/L
   31 mg/dL
   106 mEq/L
   144 mEq/L
   25.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
   WBC
   13.4
   17.7
   17.6
   17.9
   13.8
   Hct
   25.6
   27.4
   17.7
   26.6
   25.2
   Plt
   [**Telephone/Fax (3) 10368**]17
   271
   Cr
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   35
   32
   34
   39
   38
   Glucose
   136
   129
   164
   140
   151
   Ca:7.8, Mg: 2.5, Phos: 3.3
   BNP: 6302
   Micro:
   -urine cx [**8-11**]: no growth
   -urinary legionella negative
   -blood culture [**Date range (1) 10202**]: pending
   -MRSA screen: negative
   -Sputum cultures ([**8-10**], [**8-12**], [**8-13**]):  pan-sensitive pseudomonas
   aeruginosa.  2^nd morphology of pseudomonas aeroginosa.  Aspergillus,
   rare growth.
   Chest X-ray: unchanged patchy bilateral infiltrates
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.   Also occurred
   initially in the setting of hypertensive urgency making flash pulmonary
   edema a possible contributor in addition to possible PNA to her dyspnea
   and hypoxia, although less convincing by CXR.  The barriers to
   extubation include severe multifocal pneumonia and baseline poor lung
   function [**12-24**] atypical mycobacterial infection and altered mental
   status.  Appears to be third-spacing and has net volume increase.
   -diurese patient with concurrent acetazolamide to help correct for
   increasing Bicarb, with goal of 1L net negative today
   - will start diamox (500mg TID) to try to keep bicarb from increasing
   further and prevent further metabolic alkalosis, titrating to bicarb of
   28 consider following VBGs rather than ABGs if her pressures remain
   stable and A line attempts were unsuccessful
   - On AC currently, will try to wean sedation to see how she does
   - Consider decreasing level of sedation to monitor improvement
   - continue regular suction
   - Cont meropenem and inhaled tobramycin as per ID.  Sent mini-bal for
   gram stain and culture as well as galactomannan.  F/U serum
   galactomannin and beta-d-glucan.
   - continue linezolid and azithromycin for atypical mycobacterial
   infection
   - continue Albuterol inhalers
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC stable.  Most likely secondary to pneumonia. Pt is
   on linezolid which could potentially lead to decreased WBC.
   - treat underlying pneumonia with [**Last Name (un) 614**], tobramycin, linezolid and
   azithromycin for pseudomonas pneumonia and atypical mycobacterial
   infection as above
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  The patient had a history of hypertension.
   - continue hydralazine 25mg [**Hospital1 7**] (added on [**8-15**]).  Her home dose is 50mg
   [**Hospital1 7**], so if BP continues to run high today, can increase to 50mg [**Hospital1 7**]
   - keep patient net 1L negative today
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-19**] 02:44 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Arterial Line - [**2132-8-19**] 01:24 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-19 10:34:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   BNP remains elevated > 6000.
   Continues on ventilator with acceptable oxygenation on AC with FIO2=.4.
   24 Hour Events:
 ARTERIAL LINE - START [**2132-8-19**] 01:24 AM
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2132-8-16**] 08:00 PM
   Ciprofloxacin - [**2132-8-17**] 06:00 AM
   Meropenem - [**2132-8-19**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 80 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-18**] 05:00 PM
   Fentanyl - [**2132-8-18**] 05:00 PM
   Furosemide (Lasix) - [**2132-8-18**] 06:15 PM
   Pantoprazole (Protonix) - [**2132-8-19**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-19**] 08:16 AM
   Other medications:
   ASA, heparin sc, protonix, colace, hydralazine, tobra nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-19**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 99 (68 - 105) bpm
   BP: 103/45(65) {97/39(55) - 134/50(354)} mmHg
   RR: 20 (16 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.5 kg (admission): 53.4 kg
             Total In:
                                                                  2,233 mL
                                                                    844 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    450 mL
   IVF:
                                                                    913 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    475 mL
   Urine:
                                                                  1,210 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,023 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 86
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 58.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/62/92.[**Numeric Identifier 132**]/35/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin,
   No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   271 K/uL
   151 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.5 mEq/L
   31 mg/dL
   106 mEq/L
   144 mEq/L
   25.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2132-8-16**]  05:02 AM
                             [**2132-8-16**]  10:08 AM
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
   WBC
   13.4
   17.7
   17.6
   17.9
   13.8
   Hct
   25.6
   27.4
   17.7
   26.6
   25.2
   Plt
   [**Telephone/Fax (3) 10368**]17
   271
   Cr
   0.6
   0.7
   0.7
   0.7
   0.8
   TCO2
   35
   32
   34
   39
   38
   Glucose
   136
   129
   164
   140
   151
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: hyperinflated. Diffuse increase in interstitia to
   alveolarl markings
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   =================================
   Patient has good oxygenation on present settings; would decrease PEEP
   today; look for AutoPEEP. Would keep fluids even today; CXR suggests
   ongoing volume overload but BP has been marginal; has been requiring
   intermittent fluid boluses. Would stop acetazolamide - hypercapnia will
   facilitate getting her off ventilator. Antihyptensives stopped.
   Continues on antibiotics for pseudmonas and atypical mycobacteria.
   Repeat blood cultures with drop in BP. WBC down again today.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-19**] 02:44 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Arterial Line - [**2132-8-19**] 01:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-08-20 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxemia, altered mental status
   24 Hour Events:
 BLOOD CULTURED - At [**2132-8-19**] 02:57 PM
 URINE CULTURE - At [**2132-8-19**] 02:57 PM
 ARTERIAL LINE - STOP [**2132-8-20**] 05:00 AM
   - ventilator changed to pressure support
   - agitated following change in sedation from fentanyl + midazolam to
   zyprexa and propofol, fentanyl added back at 25% decreased dose, plan
   for daily wean of fentanyl by 25%
   - bolused 1 liter of NS to help with BP; consider pressors if can't
   keep MAP > 65
   - CT to rule out necrotizing PNA per ID; but hold off as pt is
   improving. will d/w ID further
   - follow up on CPAP and get ABG PO2 down some, but all other values ok
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-19**] 12:14 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-19**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-19**] 01:38 PM
   Midazolam (Versed) - [**2132-8-19**] 01:51 PM
   Fentanyl - [**2132-8-19**] 09:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-20**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 99 (75 - 110) bpm
   BP: 154/64(81) {98/33(47) - 161/64(81)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.6 kg (admission): 53.4 kg
             Total In:
                                                                  3,672 mL
                                                                    490 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    314 mL
   IVF:
                                                                  2,309 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    730 mL
   Urine:
                                                                  1,575 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,097 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 372) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/52/89.[**Numeric Identifier 126**]/30/4
   Ve: 7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   GEN:  sedated, appears comfortable
   HEENT:  conjunctiva pink, pupils reactive 2 mm
 1mm symmetrically
   bilaterally, upper airway congestive sounds noted, no palpable [**Doctor First Name **],
   carotid pulses equal and strong bilaterally
   CHEST:  lungs with diffuse pops and squeaks bilaterally over anterior
   lung fields, good air movement bilaterally, posterior lung fields not
   assessed given patient sedated lying supine
   HEART:  RRR, 2/6 systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1, no gallops
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  4+ pitting edema throughout, symmetrical bilaterally.  Radial/dp
   pulses 2+, cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   279 K/uL
   8.1 g/dL
   118 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.4 mEq/L
   25 mg/dL
   108 mEq/L
   144 mEq/L
   25.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
   WBC
   17.7
   17.6
   17.9
   13.8
   13.5
   Hct
   27.4
   17.7
   26.6
   25.2
   25.5
   Plt
   [**Telephone/Fax (3) 10391**]71
   279
   Cr
   0.7
   0.7
   0.7
   0.8
   0.6
   TCO2
   32
   34
   39
   38
   33
   Glucose
   129
   164
   140
   151
   118
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.   Also occurred
   initially in the setting of hypertensive urgency.  The barriers to
   extubation include multifocal pneumonia with secretions,  baseline poor
   lung function [**12-24**] atypical mycobacterial infection and altered mental
   status.  Is third-spacing and has net volume increase.
   - spontaneous breathing trial off propofol this AM.  If tolerates well,
   will move towards extubation today
   - goal of net even volume today to help with secretions
   - On pressure support currently tolerating well
   - Was on propofol + fentanyl wean for sedation given some agitation
   when fentanyl stopped.  Fentanyl stopped this AM and tolerated well
   without agitation.  Off propofol now for SBT.  Will continue with
   propofol and fentanyl as needed for sedation
   - continue regular suction
   - Cont meropenem and inhaled tobramycin.  Will discuss with ID if 14
   day course is sufficient
   - Sent mini-bal for gram stain and culture as well as galactomannan.
   F/U serum galactomannin and beta-d-glucan.
   - continue linezolid and azithromycin for atypical mycobacterial
   infection
   - continue Albuterol inhalers
   - CT to rule out necrotizing PNA per ID is still under discussion as
   patient is improving
will d/w ID further because it is currently
   unclear how this will change management  since she is being treated for
   pseudomonas and MRSA with linezolid and meropenem/tobra and she
   continues to clinically improve
   .
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC trending down slightly
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  Patient with episode of hypotension yesterday,
   responded to 1L of NS and then became hypertensive with decreased
   sedation.
   - discontinue hydralazine 25mg [**Hospital1 7**] for now, given change in sedation to
   propofol
   - keep patient even today
   - monitor BPs and consider restarting hydralazine if hypertensive once
   stable from a respiratory/sedation perspective
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-20**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   22 Gauge - [**2132-8-19**] 08:00 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2132-08-20 09:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failuire, pneumonia, respiratory acidosis,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Placed on PSV yesterday with adequate oxygenation and pH (chronic
   respiratory acidosis). Afebrile. WBC stable.
   Brief episode of hypotension that responded to IV fluids.
   24 Hour Events:
 BLOOD CULTURED - At [**2132-8-19**] 02:57 PM
 URINE CULTURE - At [**2132-8-19**] 02:57 PM
 ARTERIAL LINE - STOP [**2132-8-20**] 05:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-19**] 12:14 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2132-8-19**] 01:51 PM
   Fentanyl - [**2132-8-19**] 09:18 PM
   Pantoprazole (Protonix) - [**2132-8-20**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-20**] 08:12 AM
   Other medications:
   ASA, heparin sc, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-20**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 105 (75 - 110) bpm
   BP: 141/39(64) {141/39(64) - 161/64(81)} mmHg
   RR: 23 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.6 kg (admission): 53.4 kg
             Total In:
                                                                  3,672 mL
                                                                    715 mL
   PO:
             TF:
                                                                  1,123 mL
                                                                    424 mL
   IVF:
                                                                  2,309 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                  1,130 mL
   Urine:
                                                                  1,575 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,097 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 372) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/52/89.[**Numeric Identifier 126**]/30/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Intermittent pops and squeaks bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing, 1+ thigh edema
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   279 K/uL
   118 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.4 mEq/L
   25 mg/dL
   108 mEq/L
   144 mEq/L
   25.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2132-8-16**]  04:06 PM
                             [**2132-8-16**]  07:18 PM
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
   WBC
   17.7
   17.6
   17.9
   13.8
   13.5
   Hct
   27.4
   17.7
   26.6
   25.2
   25.5
   Plt
   [**Telephone/Fax (3) 10391**]71
   279
   Cr
   0.7
   0.7
   0.7
   0.8
   0.6
   TCO2
   32
   34
   39
   38
   33
   Glucose
   129
   164
   140
   151
   118
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ACUTE RESPIRATORY FAILURE
   =========================
   Doing better from respiratory standpoint. Oxygenation adequate; PaCO2
   appropriate for her chronic lung disease. Will stop sedation and try to
   do SBT today. Secretions are improving but still described as
   "moderate" by nursing and respiratory therapy. Check PaCO2 during the
   SBT. Continues on antibiotics.
   Creat continues to improve. Urine output good.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-20**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   22 Gauge - [**2132-8-19**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   consent
 to be confirmed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-08-21 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - SBT did not go well, pt was initially tachypneic and then tired out
   very quickly with very shallow breaths, concern for possible effect of
   sedation still hanging on, ABG hypoxic during SBT: 7.36/59/49
   Continues on azithro, meropenem, inhaled tobromycin, sedation vacation
   with SBT, SBT about 1hr, ABG sent, placed back on Cpap for low O2 sats,
   restarted on propofol gtt, titrating to pt comfort and minimum
   sedation, restarted on fent prn boluses
   - pt. continue to tolerate PS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-21**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-20**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-20**] 08:12 AM
   Fentanyl - [**2132-8-20**] 05:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies Pain
   Flowsheet Data as of  [**2132-8-21**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 91 (89 - 118) bpm
   BP: 129/42(63) {113/35(54) - 191/101(111)} mmHg
   RR: 20 (20 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.8 kg (admission): 53.4 kg
             Total In:
                                                                  1,689 mL
                                                                    508 mL
   PO:
             TF:
                                                                    953 mL
                                                                    308 mL
   IVF:
                                                                    616 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    650 mL
   Urine:
                                                                  2,670 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -981 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 250 (230 - 307) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 17 cmH2O
   SpO2: 96%
   ABG: 7.36/59/49/32/5
   Ve: 5.8 L/min
   PaO2 / FiO2: 123
   Physical Examination
   GEN:  sedated, appears comfortable, follow commands
   HEENT:  conjunctiva pink, pupils reactive 2 mm
 1mm symmetrically
   bilaterally, upper airway congestive sounds noted, no palpable [**Doctor First Name **],
   carotid pulses equal and strong bilaterally
   CHEST:  lungs with diffuse pops and squeaks bilaterally over anterior
   lung fields, good air movement bilaterally, posterior lung fields not
   assessed given patient sedated lying supine
   HEART:  RRR, 2/6 systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1, no gallops
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  4+ pitting edema throughout, symmetrical bilaterally.  Radial/dp
   pulses 2+, cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   276 K/uL
   8.3 g/dL
   120 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   21 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
   WBC
   17.7
   17.6
   17.9
   13.8
   13.5
   13.0
   Hct
   27.4
   17.7
   26.6
   25.2
   25.5
   25.1
   Plt
   [**Telephone/Fax (3) 10391**]71
   279
   276
   Cr
   0.7
   0.7
   0.7
   0.8
   0.6
   0.6
   TCO2
   39
   38
   33
   35
   Glucose
   129
   164
   140
   151
   118
   120
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   No new culture data ASPERGILLUS GALACTOMANNAN ANTIGEN
----                          ------              ---------------------
INDEX                         0.7  H              <0.5
RESULT INTERPRETATION:
----------------------
SERA WITH AN INDEX <0.5 ARE CONSIDERED TO BE NEGATIVE.
SERA WITH AN INDEX >=0.5 ARE CONSIDERED TO BE POSITIVE.
A POSITIVE RESULT FOR PATIENTS BEING TREATED WITH
PIPERACILLIN-TAZOBACTAM AND OTHER BETA-LACTAM
ANTIBIOTICS SUCH AS AMOXICILLIN-CLAVULANATE [**Month (only) **] BE
A FALSE POSITIVE DUE TO CROSS REACTIVITY AND SHOULD
BE VIEWED IN CONJUNCTION WITH ALL CLINICAL FINDINGS.
POSITIVE RESULTS WITH THIS ASSAY HAS ALSO BEEN REPORTED
IN PATIENTS INFECTED WITH PENICILLIUM MARNEFFEI AND
   CRYPTOCOCCUS.
   No new CXR
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation due to multifocal pneumonia on
   top of pre-existing atypical mycobacterial infection.   Also occurred
   initially in the setting of hypertensive urgency.  The barriers to
   extubation include multifocal pneumonia with secretions,  baseline poor
   lung function [**12-24**] atypical mycobacterial infection and altered mental
   status.  Is third-spacing and has net volume increase.
   - spontaneous breathing trial off propofol this AM.  If tolerates well,
   will move towards extubation today
   - goal of net even volume today to help with secretions
   - On pressure support currently tolerating well
   - Was on propofol + fentanyl wean for sedation given some agitation
   when fentanyl stopped.  Fentanyl stopped this AM and tolerated well
   without agitation.  Will continue with propofol and fentanyl as needed
   for sedation
   - continue regular suction
   - Cont meropenem and inhaled tobramycin.  Will discuss with ID if 14
   day course is sufficient
   - Sent mini-bal for gram stain and culture as well as galactomannan.
   F/U serum galactomannin and beta-d-glucan.
   - continue linezolid and azithromycin for atypical mycobacterial
   infection
   - continue Albuterol inhalers
   - CT to rule out necrotizing PNA per ID is still under discussion as
   patient is improving
will d/w ID further because it is currently
   unclear how this will change management  since she is being treated for
   pseudomonas and MRSA with linezolid and meropenem/tobra and she
   continues to clinically improve
   .
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC trending down slightly
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  Patient with episode of hypotension yesterday,
   responded to 1L of NS and then became hypertensive with decreased
   sedation.
   - discontinue hydralazine 25mg [**Hospital1 7**] for now, given change in sedation to
   propofol
   - keep patient even today
   - monitor BPs and consider restarting hydralazine if hypertensive once
   stable from a respiratory/sedation perspective
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-20**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   22 Gauge - [**2132-8-19**] 08:00 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2132-08-21 12:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI was >100 again this AM. Sedation continues to be weaned.
   Asperillous galactomannan is elevated mildly.
   Continues to have moderate secretions; begin suctioned every 4 hours
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-21**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-21**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-21**] 07:59 AM
   Fentanyl - [**2132-8-21**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-21**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 90 (90 - 115) bpm
   BP: 97/36(51) {85/31(50) - 171/101(111)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.8 kg (admission): 53.4 kg
             Total In:
                                                                  1,689 mL
                                                                    815 mL
   PO:
             TF:
                                                                    953 mL
                                                                    479 mL
   IVF:
                                                                    616 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    935 mL
   Urine:
                                                                  2,670 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -981 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 272 (230 - 307) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///32/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, In distress off
   propofol
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Coarse rhonchi anteriorally, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   276 K/uL
   120 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   21 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   13.0 K/uL
        [image002.jpg]
                             [**2132-8-17**]  05:15 AM
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
   WBC
   17.7
   17.6
   17.9
   13.8
   13.5
   13.0
   Hct
   27.4
   17.7
   26.6
   25.2
   25.5
   25.1
   Plt
   [**Telephone/Fax (3) 10391**]71
   279
   276
   Cr
   0.7
   0.7
   0.7
   0.8
   0.6
   0.6
   TCO2
   39
   38
   33
   35
   Glucose
   129
   164
   140
   151
   118
   120
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ANEMIA
   ==========================
   Patient remains on PSV with adequate oxygenation. Tidal volume,
   however, only 300 ml. Suspect that with her chronic lung condition and
   frail habitus, this may be close to her baseline and make RSBI more
   difficult to assess re: predictive value for successful extubation.
   Difficult to know if agitation off sedation represents discomfort from
   ETT. Secretions slowly improving. Reassess tomorrow; may give her a try
   at extubation.
   Galactomannan elevated. Will check with ID, but suspect we will need to
   start anti-fungal.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   22 Gauge - [**2132-8-19**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-08-22 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - RSBI probably not going to improve much due to her low lung volumes,
   which does not mean she is not ready to extubate ; last RSBI 119
   - Midaz weaned down and stopped yesterday
   - suctioning for thick yellow secretions of  copious amts about q4hrs,
   pt  comfortable on  propofol gtt 30 mcg/kg/min
   - Sinus Tachycardic to 120 when awake,requiring intermittent  fent
   bolus with  effect
   - ID recs 3 week course of antibiotics. ID is signing off
   - BPs labile; hydralazine had been stopped with propafol, but PRN
   hydralazine
   - brief episode of hypotension this AM, responded to 1 liter of NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-22**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-21**] 07:59 AM
   Fentanyl - [**2132-8-21**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-21**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 100 (85 - 123) bpm
   BP: 115/42(60) {85/23(36) - 155/89(94)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 62.8 kg (admission): 53.4 kg
             Total In:
                                                                  1,771 mL
                                                                    515 mL
   PO:
             TF:
                                                                  1,081 mL
                                                                    314 mL
   IVF:
                                                                    630 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    430 mL
   Urine:
                                                                  1,815 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -44 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 342 (272 - 352) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 6.5 L/min
   Physical Examination
   GEN:  sedated, appears comfortable, follow commands
   HEENT:  conjunctiva pink, pupils reactive 2 mm
 1mm symmetrically
   bilaterally, upper airway congestive sounds noted, no palpable [**Doctor First Name **],
   carotid pulses equal and strong bilaterally
   CHEST:  lungs with diffuse pops and squeaks bilaterally over anterior
   lung fields, good air movement bilaterally, posterior lung fields not
   assessed given patient sedated lying supine
   HEART:  RRR, 2/6 systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1, no gallops
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  4+ pitting edema throughout, symmetrical bilaterally.  Radial/dp
   pulses 2+, cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   246 K/uL
   7.7 g/dL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.5 mEq/L
   20 mg/dL
   107 mEq/L
   144 mEq/L
   23.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
   WBC
   17.6
   17.9
   13.8
   13.5
   13.0
   11.3
   Hct
   17.7
   26.6
   25.2
   25.5
   25.1
   23.7
   Plt
   356
   317
   271
   279
   276
   246
   Cr
   0.7
   0.7
   0.8
   0.6
   0.6
   0.6
   TCO2
   39
   38
   33
   35
   Glucose
   164
   140
   151
   118
   120
   118
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
RESPIRATORY CULTURE (Final [**2132-8-21**]):
      Commensal Respiratory Flora Absent.
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
      YEAST.    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation ( Day 1 of Intubation: [**8-12**];
   today is day 10) due to multifocal pneumonia on top of pre-existing
   atypical mycobacterial infection.   The barriers to extubation include
   multifocal pneumonia with secretions,  baseline poor lung function [**12-24**]
   atypical mycobacterial infection and unable to wean off of sedation
   without patient getting agitated.  Third-spacing and has net volume
   increase.
   - CXR pending
   - Increase frequency of fentanyl and attempt to decrease propofol if
   patient can tolerate.
   - Check TG today since patient has been on propofol for at least 72
   hours
   - goal of net even volume today to help with secretions
   - On pressure support currently tolerating well; attempt to decrease
   PEEP today from 12 to 8.
   - continue regular suction
   - Cont meropenem and inhaled tobramycin for full three week course: Day
   1: [**8-17**]
   - Sent mini-bal for gram stain and culture.  Galactomannan is 0.7,
   above normal of 0.5. Unsure of cross-reactivity or real value. -  -
   Will consult ID today for decision whether to treat or not. Page [**Numeric Identifier 10446**]
   - continue Albuterol inhalers
   - CT to rule out necrotizing PNA per ID is still under discussion as
   patient is improving
will d/w ID further because it is currently
   unclear how this will change management  since she is being treated for
   pseudomonas and MRSA with linezolid and meropenem/tobra and she
   continues to clinically improve
   - Re-assess secretions throughout weekend, patient will likely need
   trach Monday. Will touch base with husband.
   - Cultures pending
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC trending down slightly
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:
   - Hold hydralazine 25mg [**Hospital1 7**] for now, given change in sedation to
   propofol and will re-institute on a prn basis for sbp > 160
   - keep patient even today
   - monitor BPs and consider restarting hydralazine if hypertensive once
   stable from a respiratory/sedation perspective
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-20**] 12:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   22 Gauge - [**2132-8-19**] 08:00 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU for now

2132-08-22 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Versed weaned off yesterday. Remains on fentanyl for pain and propofol.
   Episode of hypotension this AM; responded to fluid bolus.
   Still has large amounts of tracheal secretions. On PSV now with
   FIO2=0.4 and good O2 sats.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2132-8-22**] 04:00 AM
   Azithromycin - [**2132-8-22**] 08:19 AM
   Linezolid - [**2132-8-22**] 08:19 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2132-8-21**] 07:55 PM
   Pantoprazole (Protonix) - [**2132-8-22**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-22**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 96 (85 - 123) bpm
   BP: 113/35(55) {76/23(36) - 155/89(94)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61.4 kg (admission): 53.4 kg
             Total In:
                                                                  1,774 mL
                                                                  1,782 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    514 mL
   IVF:
                                                                    630 mL
                                                                  1,268 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    770 mL
   Urine:
                                                                  1,815 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -41 mL
                                                                  1,012 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 305 (300 - 352) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Coarse, throughout, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Diminished bowel sounds; PEG
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): Not able to assess, Movement:
   Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   7.7 g/dL
   246 K/uL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.5 mEq/L
   20 mg/dL
   107 mEq/L
   144 mEq/L
   23.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2132-8-18**]  12:29 AM
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
   WBC
   17.6
   17.9
   13.8
   13.5
   13.0
   11.3
   Hct
   17.7
   26.6
   25.2
   25.5
   25.1
   23.7
   Plt
   356
   317
   271
   279
   276
   246
   Cr
   0.7
   0.7
   0.8
   0.6
   0.6
   0.6
   TCO2
   39
   38
   33
   35
   Glucose
   164
   140
   151
   118
   120
   118
   Other labs: PT / PTT / INR:12.4/31.0/1.0, Lactic Acid:0.6 mmol/L,
   LDH:183 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   =====================
   Continues to have large volume of pulmonary secretions; requires
   suctioning every 4 hours. Oxygenation remains good. Continue
   antibiotics. I would push for decision on Monday, if not getting better
   with respect to secretions, about possible trach. Will try to reduce
   PSV today.
   Brief episode of hypotension this AM. Continue to monitor.
   Hct down slightly; no evidence of bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-22**] 08:45 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-08-23 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Barriers to extubation: increased secretions and difficulty weaning
   sedation.
   - Attempted to wean propofol and increase fentanyl, but patient became
   agitated and tried pulling out her tube. Increased propofol. OK to keep
   sedation on over weekend as patient will likely need a trach on Monday.
   - Daughter, [**Name (NI) 1387**], is going to think about a trach for her mother. She
   isn't sure if that is in her mother's wishes. She will let us know.
   ([**Telephone/Fax (1) 10472**])
   - TG 135
   - Increased secretions: did CXR at 1400. Official read possible
   increased opacity in left perihilum.
   - Per ID, resend galactomannan as prior test may likely be a false
   positive. High liklihood of cross reactivity with zosyn she received
   earlier. Do not treat yet.
   - Goal I/O even
   - ASA d/c'd for potential trach on Monday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-22**] 08:19 AM
   Linezolid - [**2132-8-22**] 08:06 PM
   Meropenem - [**2132-8-23**] 04:23 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-22**] 08:18 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-22**] 08:06 PM
   Fentanyl - [**2132-8-23**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 105 (85 - 118) bpm
   BP: 122/42(62) {76/25(37) - 164/70(81)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.3 kg (admission): 53.4 kg
    Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  3,299 mL
                                                                    528 mL
   PO:
   TF:
                                                                  1,082 mL
                                                                    298 mL
   IVF:
                                                                  2,158 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    460 mL
   Urine:
                                                                  2,450 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    849 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 322) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 6.4 L/min
   Physical Examination
   GEN:  sedated, appears comfortable, follow commands
   HEENT:  conjunctiva pink, pupils reactive 2 mm
 1mm symmetrically
   bilaterally, upper airway congestive sounds noted, no palpable [**Doctor First Name **],
   carotid pulses equal and strong bilaterally
   CHEST:  lungs with diffuse pops and squeaks bilaterally over anterior
   lung fields, good air movement bilaterally, posterior lung fields not
   assessed given patient sedated lying supine
   HEART:  RRR, 2/6 systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1, no gallops
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  4+ pitting edema throughout, symmetrical bilaterally.  Radial/dp
   pulses 2+, cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   222 K/uL
   7.0 g/dL
   103 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   145 mEq/L
   21.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
   WBC
   17.6
   17.9
   13.8
   13.5
   13.0
   11.3
   8.6
   Hct
   17.7
   26.6
   25.2
   25.5
   25.1
   23.7
   21.4
   Plt
   356
   317
   271
   279
   276
   246
   222
   Cr
   0.7
   0.7
   0.8
   0.6
   0.6
   0.6
   0.5
   TCO2
   38
   33
   35
   Glucose
   164
   140
   151
   118
   120
   118
   103
   Microbiology:
RESPIRATORY CULTURE (Final [**2132-8-21**]):
      Commensal Respiratory Flora Absent.
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
      YEAST.    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------     8 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation ( Day 1 of Intubation: [**8-12**];
   today is day 10) due to multifocal pneumonia on top of pre-existing
   atypical mycobacterial infection.   The barriers to extubation include
   multifocal pneumonia with secretions,  baseline poor lung function [**12-24**]
   atypical mycobacterial infection and unable to wean off of sedation
   without patient getting agitated.  Third-spacing and has net volume
   increase.
   - CXR pending
   - Increase frequency of fentanyl and attempt to decrease propofol if
   patient can tolerate.
   - Check TG today since patient has been on propofol for at least 72
   hours
   - goal of net even volume today to help with secretions
   - On pressure support currently tolerating well; attempt to decrease
   PEEP today from 12 to 8.
   - continue regular suction
   - Cont meropenem and inhaled tobramycin for full three week course: Day
   1: [**8-17**]
   - Sent mini-bal for gram stain and culture.  Galactomannan is 0.7,
   above normal of 0.5. Unsure of cross-reactivity or real value. -  -
   Will consult ID today for decision whether to treat or not. Page [**Numeric Identifier 10446**]
   - continue Albuterol inhalers
   - CT to rule out necrotizing PNA per ID is still under discussion as
   patient is improving
will d/w ID further because it is currently
   unclear how this will change management  since she is being treated for
   pseudomonas and MRSA with linezolid and meropenem/tobra and she
   continues to clinically improve
   - Re-assess secretions throughout weekend, patient will likely need
   trach Monday. Will touch base with husband.
   - Cultures pending
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC trending down slightly
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:
   - Hold hydralazine 25mg [**Hospital1 7**] for now, given change in sedation to
   propofol and will re-institute on a prn basis for sbp > 160
   - keep patient even today
   - monitor BPs and consider restarting hydralazine if hypertensive once
   stable from a respiratory/sedation perspective
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-23**] 05:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: F/U with daughter [**Name (NI) 1387**] re: possible trach
   on Monday
   Code status: Full code
   Disposition: ICU for now

2132-08-23 10:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Discussion as to move to tracheostomy next week given persistent
   respiratory failure
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-22**] 08:19 AM
   Linezolid - [**2132-8-22**] 08:06 PM
   Meropenem - [**2132-8-23**] 04:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-22**] 08:06 PM
   Fentanyl - [**2132-8-23**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: Tube feeds
   Respiratory: Cough
   Genitourinary: Foley
   Flowsheet Data as of  [**2132-8-23**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98
   HR: 103 (85 - 118) bpm
   BP: 116/39(58) {82/27(39) - 164/70(81)} mmHg
   RR: 19 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62.3 kg (admission): 53.4 kg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                  3,299 mL
                                                                    830 mL
   PO:
   TF:
                                                                  1,082 mL
                                                                    471 mL
   IVF:
                                                                  2,158 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    650 mL
   Urine:
                                                                  2,450 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    849 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 322) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 31.8 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 6.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   222 K/uL
   103 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   145 mEq/L
   21.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2132-8-18**]  03:45 AM
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
   WBC
   17.6
   17.9
   13.8
   13.5
   13.0
   11.3
   8.6
   Hct
   17.7
   26.6
   25.2
   25.5
   25.1
   23.7
   21.4
   Plt
   356
   317
   271
   279
   276
   246
   222
   Cr
   0.7
   0.7
   0.8
   0.6
   0.6
   0.6
   0.5
   TCO2
   38
   33
   35
   Glucose
   164
   140
   151
   118
   120
   118
   103
   Other labs: PT / PTT / INR:12.6/31.0/1.1, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR-Improved Left upper lobe opacities
   Assessment and Plan
   83 yo female with presentation with significant pneumonia in the
   setting of chronic M. Abscessus infection and now with recent PEG tube
   placement.  She has been maintained in A/C support through to this
   morning and will need to move to wean ventilatory support across today.
   1)Respiratory Failure-Certainly pneumonia was initial insult leading to
   respiratory failure with signficant multi-focal pneumonia.  Will move
   to PSV today and SBTa nd extubation if able to tolerate given improved
   CXR findings.
   -Linezolid/Azithro
   -Tobra inhaled/Meropenem
3 week course
   -Decrease sedation
RSBI
SBT and ABG
   -Continue with antibiotics
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-23**] 05:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2132-08-24 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -continues to have thick secretions which will likely make extubation
   difficult
   -weaned sedation in the afternoon, patient became much more
   awake/alert, was following commands, maintained on PS during day and
   evening
   - pt had increased work of breathing on [**8-25**] Pressure Support, so PS
   increased to [**10-25**]
   - RSBI 74 with sedation this AM
   -daughter unsure about whether patient would want trach, but will come
   in for discussion tuesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-22**] 08:19 AM
   Linezolid - [**2132-8-23**] 08:12 PM
   Meropenem - [**2132-8-24**] 04:10 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-23**] 08:12 PM
   Fentanyl - [**2132-8-24**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 106 (93 - 112) bpm
   BP: 134/59(77) {88/28(43) - 169/66(90)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60.2 kg (admission): 53.4 kg
             Total In:
                                                                  2,426 mL
                                                                    577 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    332 mL
   IVF:
                                                                  1,236 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,768 mL
                                                                    630 mL
   Urine:
                                                                  1,768 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    658 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 360 (0 - 360) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   Compliance: 31.8 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 5.6 L/min
   Physical Examination
   GEN:  sedated, appears comfortable, not following commands
   HEENT:  conjunctiva pink, pupils reactive 2 mm
 1mm symmetrically
   bilaterally, upper airway congestive sounds noted, no palpable [**Doctor First Name **],
   carotid pulses equal and strong bilaterally
   CHEST:  lungs with diffuse pops and squeaks bilaterally over anterior
   lung fields, good air movement bilaterally, posterior lung fields not
   assessed given patient sedated lying supine
   HEART:  RRR, 2/6 systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  3+ pitting edema throughout, symmetric bilaterally.  Radial/dp
   pulses 2+, cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   219 K/uL
   7.4 g/dL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.5 mEq/L
   20 mg/dL
   110 mEq/L
   147 mEq/L
   22.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
   WBC
   17.9
   13.8
   13.5
   13.0
   11.3
   8.6
   6.8
   Hct
   26.6
   25.2
   25.5
   25.1
   23.7
   21.4
   22.7
   Plt
   [**Telephone/Fax (3) 10491**]
   219
   Cr
   0.7
   0.8
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   140
   151
   118
   120
   118
   103
   113
   Other labs: PT / PTT / INR:12.6/31.0/1.1, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation ( Day 1 of Intubation: [**8-12**];
   today is day 11) due to multifocal pneumonia on top of pre-existing
   atypical mycobacterial infection.   The barriers to extubation include
   multifocal pneumonia with secretions,  baseline poor lung function [**12-24**]
   atypical mycobacterial infection, difficulty weaning sedation without
   patient getting agitated but inability to do a good SBT trial with
   continued sedation.  Third-spacing and has net volume increase.
   - Today will wean sedation, do a RSBI, SBT, repeat ABG to gather more
   data about a possible trial of extubation prior to trach
   - goal of net even volume today to help with secretions
   - continue regular suction
   - Cont meropenem and inhaled tobramycin for full three week course: Day
   1: [**8-17**]
   - Sent mini-bal for gram stain and culture.  Galactomannan is 0.7,
   above normal of 0.5, per ID, f/u w rechecked level, no treatment at
   this time
   - continue Albuterol inhalers
   - Re-assess secretions throughout weekend, patient will likely need
   trach Monday, daughter currently unsure if her mom would want a trach,
   and husband does not want to make the decision
   - Cultures pending
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Leukocytosis:  WBC trending down slightly
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:
   - BP
s currently labile, will continue to monitor, periods of
   hypotension have been fluid responsive
   .
   # Anorexia s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-24**] 01:58 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: F/U with daughter [**Name (NI) 1387**] re: possible trach
   on Monday
   Code status: Full code
   Disposition: ICU for now

2132-08-24 10:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient wean in PSV mode and has favorable RSBI this morning
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2132-8-23**] 08:12 PM
   Meropenem - [**2132-8-24**] 04:10 AM
   Azithromycin - [**2132-8-24**] 08:09 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2132-8-24**] 12:24 AM
   Pantoprazole (Protonix) - [**2132-8-24**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-24**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2132-8-24**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 96 (93 - 112) bpm
   BP: 112/41(58) {101/28(46) - 169/66(90)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60.2 kg (admission): 53.4 kg
             Total In:
                                                                  2,426 mL
                                                                    776 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    473 mL
   IVF:
                                                                  1,236 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,768 mL
                                                                    810 mL
   Urine:
                                                                  1,768 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    658 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 308 (0 - 360) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///35/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   219 K/uL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.5 mEq/L
   20 mg/dL
   110 mEq/L
   147 mEq/L
   22.7 %
   6.8 K/uL
        [image002.jpg]
                             [**2132-8-18**]  05:00 AM
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
   WBC
   17.9
   13.8
   13.5
   13.0
   11.3
   8.6
   6.8
   Hct
   26.6
   25.2
   25.5
   25.1
   23.7
   21.4
   22.7
   Plt
   [**Telephone/Fax (2) 10491**]
   219
   Cr
   0.7
   0.8
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   140
   151
   118
   120
   118
   103
   113
   Other labs: PT / PTT / INR:12.6/31.0/1.1, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   83 yo female with history of M. Abscessus and now admitted with
   hypoxemic respiratory failure with multilobar pneumonia.  She has had
   trend towards improved respiratory status with now patient able to
   tolerate pressure support ventilation.
   1) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])-
   -Linezolid/Tobra inhalation/Meropenem to continue
   -Do have large volume secretions and will need to have decrease prior
   to attempt at extubation
   -If unable to complete extubation will have to consider tracheostomy
   and this will have to be considered carefully with patient
   longstanding physicians
   -Will move to RSBi and SBT in am to consider chances of successful
   extubation
   2)Hypernatremia-
   -Will continue to replace free water deficit
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2132-8-24**] 01:58 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  Husband updated in full during rounds as to
   current considerations and challenges including continued high volume
   secretions limiting extubation at this time.
   Code status: Full code
   Disposition :ICU
   Total time spent: 37

2132-08-25 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -continues to have thick secretions which will likely make extubation
   difficult
   -weaned sedation in the afternoon, patient became much more
   awake/alert, was following commands, maintained on PS during day and
   evening
   - daughter wants to make sure no decisions are made without her bc has
   talked extensively w PCP who [**Name9 (PRE) 10508**] think pt will recover --> lives in
   [**State **] and plane will land at noon on Tuesday, so she'll come directly
   from airport
   - maintained on PS overnight at 12/5, most recent RSBI=78
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-24**] 08:09 AM
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-25**] 04:29 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-8-24**] 08:08 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-24**] 07:34 PM
   Fentanyl - [**2132-8-24**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-25**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 104 (95 - 120) bpm
   BP: 111/46(61) {101/37(53) - 182/71(102)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 60.2 kg (admission): 53.4 kg
             Total In:
                                                                  2,153 mL
                                                                    544 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    289 mL
   IVF:
                                                                    759 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    483 mL
   Urine:
                                                                  2,150 mL
                                                                    483 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      3 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 310 (310 - 330) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: ///35/
   Ve: 5.7 L/min
   Physical Examination
   GEN:  sedated, appears comfortable, can follow commands to squeeze
   hands and wiggle toes
   HEENT:  conjunctiva pink, pupils reactive symmetrically bilaterally
   CHEST:  lungs clear in anterior lung fields, good air movement
   bilaterally, posterior lung fields not assessed b/c pt supine
   HEART:  RRR, soft systolic murmur noted at RUSB, no radiation
   appreciated, prominent S1
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  2+ edema periph, symmetric bilaterally.  Radial/dp pulses 2+,
   cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   212 K/uL
   7.1 g/dL
   110 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   144 mEq/L
   21.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
   WBC
   13.8
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   Hct
   25.2
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   Plt
   271
   279
   276
   [**Telephone/Fax (3) 10509**]
   212
   Cr
   0.8
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   151
   118
   120
   118
   103
   113
   110
   Other labs:
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
RESPIRATORY CULTURE (Final [**2132-8-23**]):
      Commensal Respiratory Flora Absent.
      YEAST.    SPARSE GROWTH.
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
      MOLD.    1 COLONY ON 1 PLATE.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------     2 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
   Imaging:
   Chest X-Ray ([**8-25**] my read): stable bilateral patchy opacities
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation ( Day 1 of Intubation: [**8-12**];
   today is day 13) due to multifocal pneumonia on top of pre-existing
   atypical mycobacterial infection.   The largest barriers to extubation
   is her thick secretions; she did have  baseline poor lung function [**12-24**]
   atypical mycobacterial infection.  Pt weaned off sedation this AM doing
   well, but started becoming agitated in early afternoon, so propofol
   restarted. Third-spacing and has net volume increase.  RSBI 78 this
   AM.  WBCs trending down.
   - Possible trach this week, pending Daughter
s decision on Tuesday
   - Today will wean sedation again, try  SBT, repeat ABG to gather more
   data about a possible trial of extubation prior to trach
   - goal of net even volume today to help with secretions
   - continue frequent suction
   - Cont meropenem and inhaled tobramycin (Day#8 today) for full three
   week course: Day 1: [**8-17**]
   - f/u mini-bal for gram stain and culture.
   - f/u repeat Galactomannan (first galactomannan 0.7, likely
   cross-reaction from zosyn)
   - continue Albuterol inhalers
   - continue to Re-assess secretions
   - Cultures pending
   .
   # Hypernatremia:  increased Na to 147 this AM from 145 yesterday.
   - free water boluses into PEG tube
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Anemia: No evidence of active bleeding.  Hct stable from yesterday.
   - iron, B12, folate, hemolysis, retic count all normal
   .
   # Hypertension:  BP
s currently labile, increased with agitation
   - turned sedation back on because overly agitated early this afternoon
   with elevated BPs
   - will continue to monitor
   .
   # Anorexia, s/p G-tube placement:
   - continue TF through G-tube
   # Risk of serotonin syndrome: pt on linezolid and fentanyl which could
   potentially lead to serotonin syndrome.
   - monitor for signs of serotonin syndrome including hypotension,
   hyperpyrexia, worsening neuro exams,  high CK levels
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-8-24**] 07:34 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Protonix
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-08-25 11:44:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, pneumonia, bronchiectasis,
   anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continued on PSV overnight; still has thick secretions from
   ETT. Afebrile. WBC has normalized.
   RSBI 78 this AM.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-24**] 08:09 AM
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-25**] 04:29 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-24**] 07:34 PM
   Fentanyl - [**2132-8-24**] 08:10 PM
   Other medications:
   sc heparin, protonix, chlorehexidine, colace.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-25**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 100 (94 - 120) bpm
   BP: 137/50(71) {103/37(58) - 182/71(102)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 53.4 kg
             Total In:
                                                                  2,153 mL
                                                                    800 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    458 mL
   IVF:
                                                                    759 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    683 mL
   Urine:
                                                                  2,150 mL
                                                                    683 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      3 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 209 (209 - 330) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 3.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Coarse, anterior, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   212 K/uL
   110 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.3 mEq/L
   18 mg/dL
   106 mEq/L
   144 mEq/L
   21.9 %
   6.1 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:40 AM
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
   WBC
   13.8
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   Hct
   25.2
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   Plt
   271
   279
   276
   [**Telephone/Fax (3) 10509**]
   212
   Cr
   0.8
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   151
   118
   120
   118
   103
   113
   110
   Other labs: PT / PTT / INR:12.6/31.0/1.1, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ANEMIA
   ===============
   Has made some progress over the past 48 hours. WBC is down. Seems to be
   tolerating lower PSV better. Unclear if RSBI this AM reflects 30 minute
   SBT. Will repeat today. Patient's daugher arriving tomorrow to
   participate in discussion re: trach. Sputum per suctioning is moderate.
   Continues on antibiotics. Repeat sputum culture growing pseudomonas
   sensitive to present antibiotics.
   CXR today suggests mild volume overload. Would try to achieve negative
   fluid balance today.
   Hct down slightly and now at transfusion threshold. Would transfuse
   today in anticipation of possible extubation tomorrow.
   ICU Care
   Nutrition: Tube feeds
   Replete with Fiber (Full) - [**2132-8-24**] 07:34 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-08-26 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - daughter will be here today, flying in from [**State **]
   - Dr. [**Last Name (STitle) 2351**] wants to be a part of the meeting tomorrow. Please page him
   with a time as soon as it is found out. He said: "I can be there.  I'l
   be picking up the inpatient ID service on Thursday.  Just have me
   paged-- if we're in the midst of rounds I should be able to break
   away.  If I'm in the midst of an acute pt care issue, I'll join you as
   soon as I am able.  Thanks- [**Doctor First Name 1219**] "
   - Goal of - 500 cc's; at 0200 around -900 cc. got 1 unit of prbc with
   lasix
   - Got too much sedation overnight due to agitation and became apneic.
   Had to change to AC around 0200.
   - RSBI on no sedation this AM on PS 5/0 was 85
   - per nurse, pt motioned that she would not want to be on trach
   yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-24**] 08:09 AM
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-25**] 12:39 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-25**] 07:40 PM
   Fentanyl - [**2132-8-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 111 (85 - 117) bpm
   BP: 162/52(79) {98/38(53) - 175/83(105)} mmHg
   RR: 20 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 62 kg (admission): 53.4 kg
             Total In:
                                                                  1,973 mL
                                                                    527 mL
   PO:
             TF:
                                                                    961 mL
                                                                    293 mL
   IVF:
                                                                    673 mL
                                                                    173 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  3,173 mL
                                                                    520 mL
   Urine:
                                                                  3,173 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 373) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///37/
   Ve: 6.1 L/min
   Physical Examination
   GEN:  sedated, appears comfortable, can follow commands to squeeze
   hands and wiggle toes
   HEENT:  conjunctiva pink, pupils reactive symmetrically bilaterally
   CHEST:  lungs clear in anterior lung fields, good air movement
   bilaterally, posterior lung fields not assessed b/c pt supine
   HEART:  RRR, soft systolic murmur noted at RUSB, non-radiating
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  2+ edema, symmetric bilaterally
improving.  Radial/dp pulses 2+,
   cap refill < 2 seconds
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   230 K/uL
   8.2 g/dL
   97 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   24.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
                             [**2132-8-26**]  05:06 AM
   WBC
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   5.7
   Hct
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   24.7
   Plt
   279
   276
   246
   222
   219
   212
   230
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   118
   120
   118
   103
   113
   110
   97
   Other labs: PT / PTT / INR:12.2/29.6/1.0, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  s/p intubation ( Day 1 of Intubation: [**8-12**];
   today is day 13) due to multifocal pneumonia on top of pre-existing
   atypical mycobacterial infection.   The largest barriers to extubation
   is her thick secretions; she did have  baseline poor lung function [**12-24**]
   atypical mycobacterial infection.  Pt weaned off most of her sedation
   this AM doing well. Third-spacing and has net volume increase.  RSBI 78
   this AM.  WBCs trending down.
   - Possible trach this week, pending Daughter
s decision on Tuesday
   - RSBI was 78 this morning, but was not a full 30minute [**Last Name (LF) 2208**], [**First Name3 (LF) **] will
   re-attempt a full [**First Name3 (LF) 2208**] this afternoon off sedation
   - goal of net negative to help prior to possible extubation tomorrow
   - continue frequent suction
   - Cont meropenem and inhaled tobramycin (Day#8 today) for full three
   week course: Day 1: [**8-17**]
   - repeat sputum cx shows pan sensitive pseudomonas
   - f/u repeat Galactomannan (first galactomannan 0.7, likely
   cross-reaction from zosyn)
   - continue Albuterol inhalers
   .
   # Hypernatremia:  decreased Na to 140 this AM from 144 yesterday.
   - continue increased free water boluses into PEG tube
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Anemia: No evidence of active bleeding.
   -          iron, B12, folate, hemolysis, retic count all normal
   -          will transfuse 1 unit PRBC
s since she is close to criteria
   and plan for extubation tomorrow
   .
   # Hypertension:  BP
s currently labile, increased with agitation
   - no medication intervention at this time, will continue to monitor
   .
   # Anorexia, s/p G-tube placement:
   - continue TF through G-tube
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-8-25**] 08:32 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: heparin subq
   Stress ulcer: protonix
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  pending discussion w family today

2132-08-26 12:16:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, bronchiectasis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on assist control overnight because she had received some
   additional fentany. This AM back on PSV 12/5. RSBI in high 80s.
   Oxygenation adequate with FIO2 0.4.
   Mental status improved; more alert.
   Secretions improved.
   24 Hour Events:
 EKG - At [**2132-8-26**] 06:03 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-24**] 08:09 AM
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-25**] 12:39 PM
   Heparin Sodium (Prophylaxis) - [**2132-8-25**] 07:40 PM
   Fentanyl - [**2132-8-26**] 09:24 AM
   Other medications:
   seroquel, tobramycin inhalation, chlorhex, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-26**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 113 (85 - 135) bpm
   BP: 157/66(88) {98/38(53) - 189/86(105)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59 kg (admission): 53.4 kg
             Total In:
                                                                  1,973 mL
                                                                    720 mL
   PO:
             TF:
                                                                    961 mL
                                                                    380 mL
   IVF:
                                                                    673 mL
                                                                    220 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  3,173 mL
                                                                  1,120 mL
   Urine:
                                                                  3,173 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,200 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 369 (0 - 373) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///37/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base and apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : Coarse rales left > right, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   230 K/uL
   97 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   24.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
                             [**2132-8-26**]  05:06 AM
   WBC
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   5.7
   Hct
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   24.7
   Plt
   279
   276
   246
   222
   219
   212
   230
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   118
   120
   118
   103
   113
   110
   97
   Other labs: PT / PTT / INR:12.2/29.6/1.0, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   ================
   Patient looks much better this AM after diuresis yesterday and D/C of
   sedation. Awaiting arrival of daughter to make clear what the plan will
   be if the patient fails extubation (i.e., will she be reintubated);
   however, she does appear ready to extubate today. Would give additional
   lasix now in anticipation of extubation. Be prepared for mask
   ventilation post extubation if need as bridge to fully sustained
   spontaneous breathing. Tube feedings being held.
   Continue antibiotics. Secretions diminished.
   Hct improved post transfusion. Not at transfusion threshold now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-08-27 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extubated, satting well, but c/o subjective SOB
   - setting up home with hospice as long as patient is well enough for
   ambulance ride, [**Doctor First Name 115**] from CM is working on the set up for tomorrow
   - added back hydralazine and increased captopril for HTN
   - pt. responded well to some morphine for anxiety and SOB
   - Comfortable on 6L nasal canula overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-24**] 08:09 AM
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2132-8-26**] 09:24 AM
   Heparin Sodium (Prophylaxis) - [**2132-8-26**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-27**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 109 (94 - 153) bpm
   BP: 174/66(93) {117/42(58) - 189/129(134)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.2 kg (admission): 53.4 kg
             Total In:
                                                                  1,190 mL
                                                                    259 mL
   PO:
             TF:
                                                                    380 mL
   IVF:
                                                                    540 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    485 mL
   Urine:
                                                                  2,680 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 316 (316 - 369) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.2 L/min
   Physical Examination
   GEN:  alert, appears comfortable, eyes open and pt tries to speak, able
   to write out thoughts on paper
   HEENT:  conjunctiva pink, pupils reactive symmetrically bilaterally
   CHEST:  lungs clear in anterior lung fields, good air movement
   bilaterally, posterior lung fields not assessed b/c pt supine
   HEART:  RRR, systolic murmur noted at RUSB, non-radiating
   ABD:  soft, nontender, non-distended, no hepatomegaly noted, G-tube
   with dressings in place
   EXTR:  leg edema improved
   SKIN:  multiple petechiae noted on abdomen c/w SC heparin
   administration, PICC and G tubes in place without significant erythema
   or induration around insertion sites
   Labs / Radiology
   230 K/uL
   8.2 g/dL
   97 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   24.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
                             [**2132-8-26**]  05:06 AM
   WBC
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   5.7
   Hct
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   24.7
   Plt
   279
   276
   246
   222
   219
   212
   230
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   118
   120
   118
   103
   113
   110
   97
   Other labs: PT / PTT / INR:12.2/29.6/1.0, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   83 yo female with pmh of bronchiectasis and an atypical mycobacterial
   infection originally admitted on [**8-7**] for PEG placement  was
   transferred to [**Hospital Unit Name 1**] for acute shortness of breath in the setting of
   hypertensive urgency, and was found to have multifocal pseudomonas
   pneumonia.
   .
   # Respiratory failure:  Extubated successfully yesterday s/p 14 days of
   intubation for multifocal pneumonia on top of pre-existing atypical
   mycobacterial infection.   Secretions improved.  Was given another dose
   of 40mg IV lasix prior to extubation.
   - Give another 40 IV lasix
   -
   - Cont meropenem and inhaled tobramycin (Day#8 today) for full three
   week course: Day 1: [**8-17**]
   - f/u repeat Galactomannan (first galactomannan 0.7, likely
   cross-reaction from zosyn)
   - continue Albuterol inhalers
   .
   # Hypernatremia:  Na stable at 140
   - one more day of free water boluses through PEG tube before she goes
   home
   .
   # Mycobacterial abscessus infection:
   - Continue linezolid and azithromycin per outpatient regimen
   .
   # Anemia: No evidence of active bleeding.
   -          iron, B12, folate, hemolysis, retic count all normal
   # Hypertension:  BP
s currently labile, increased with agitation
   - Captopril increased overnight
   - Hydralazine started
   - will restart rest of home meds today
   .
   # Anorexia, s/p G-tube placement:
   - continue TF through G-tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT:   subq heparin
   Stress ulcer:  protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR /DNI
   Disposition:  Home w Hospice

2132-08-27 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, pneumonia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient has continued to do well post extubation. Given hydralazine for
   hypertension. Negative fluid balance with diuresis yesterday.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2132-8-24**] 07:29 PM
   Meropenem - [**2132-8-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-26**] 07:40 PM
   Other medications:
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-27**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 126 (94 - 153) bpm
   BP: 167/62(90) {133/44(65) - 189/129(134)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.2 kg (admission): 53.4 kg
             Total In:
                                                                  1,190 mL
                                                                    296 mL
   PO:
             TF:
                                                                    380 mL
   IVF:
                                                                    540 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    585 mL
   Urine:
                                                                  2,680 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,490 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 316 (316 - 316) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 4.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds: Clear : ,
   Crackles : Coarse, upper zones, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   230 K/uL
   97 mg/dL
   0.5 mg/dL
   37 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   140 mEq/L
   24.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2132-8-19**]  05:42 AM
                             [**2132-8-19**]  04:56 PM
                             [**2132-8-20**]  03:56 AM
                             [**2132-8-20**]  11:07 AM
                             [**2132-8-21**]  03:31 AM
                             [**2132-8-22**]  03:54 AM
                             [**2132-8-23**]  04:32 AM
                             [**2132-8-24**]  04:45 AM
                             [**2132-8-25**]  04:30 AM
                             [**2132-8-26**]  05:06 AM
   WBC
   13.5
   13.0
   11.3
   8.6
   6.8
   6.1
   5.7
   Hct
   25.5
   25.1
   23.7
   21.4
   22.7
   21.9
   24.7
   Plt
   279
   276
   246
   222
   219
   212
   230
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   38
   33
   35
   Glucose
   118
   120
   118
   103
   113
   110
   97
   Other labs: PT / PTT / INR:12.2/29.6/1.0, Differential-Neuts:77.3 %,
   Lymph:12.9 %, Mono:5.4 %, Eos:4.3 %, Lactic Acid:0.6 mmol/L, LDH:183
   IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 OLIGURIA/ANURIA
 HYPOXEMIA
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   =====================
   Patient comfortable with supplemental oxygen via nasal cannula. O2 sats
   adequate. Patient to be discharged to home with hospice care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-15**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: VAP protocol not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes